2124-12-06 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2124-12-5**] 10:46 AM
 ULTRASOUND - At [**2124-12-5**] 04:00 PM
   Head CT with motion artifact, study not optimal but no obvious
   hemorrhage or stroke.  +enlarged ventricles with brain atrophy which is
   similar to prior study
   Abd/Pelvis/chest CT:  Prelim read:  +ascites, +bilateral pleural
   effusions.  Per radiology resident: +nodular liver, splenomegaly
   Liver U/S:  Portal Vein Patent
   Na went from 119-121 overnight, Na pending from this morning
   Liver recs:  Agree this represents cirrhosis, AMS likely [**3-6**]
   encephalopathy.  Recommended empiric treatment for SBP as will be
   difficult to get paracentesis with body habitus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-5**] 08:40 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-6**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 97 (86 - 103) bpm
   BP: 172/83(106) {133/64(78) - 174/83(106)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    456 mL
                                                                    766 mL
   PO:
           TF:
   IVF:
                                                                    149 mL
                                                                     73 mL
   Blood products:
                                                                    307 mL
                                                                    693 mL
   Total out:
                                                                  1,054 mL
                                                                    385 mL
   Urine:
                                                                    804 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -598 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.40/35/73.[**Numeric Identifier 218**]/22/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   138 K/uL
   9.1 g/dL
   90 mg/dL
   2.7 mg/dL
   22 mEq/L
   5.1 mEq/L
   67 mg/dL
   89 mEq/L
   121 mEq/L
   26.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2124-12-5**]  10:14 AM
                             [**2124-12-5**]  10:29 AM
                             [**2124-12-5**]  02:31 PM
                             [**2124-12-5**]  06:08 PM
                             [**2124-12-5**]  10:28 PM
                             [**2124-12-6**]  06:29 AM
   WBC
   11.2
   7.0
   Hct
   31.1
   26.6
   Plt
   206
   138
   Cr
   2.7
   2.6
   2.7
   2.7
   TCO2
   22
   Glucose
   80
   83
   90
   90
   Other labs: PT / PTT / INR:19.2/36.0/1.8, ALT / AST:58/141, Alk Phos /
   T Bili:124/4.5, Amylase / Lipase:/77, Differential-Neuts:79.1 %,
   Band:1.0 %, Lymph:12.2 %, Mono:6.5 %, Eos:1.8 %, Fibrinogen:118 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.4 g/dL, Ca++:8.8 mg/dL, Mg++:2.4
   mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN and COPD initially presented to the ED c/o SOB and
   noted to be massively fluid overloaded, in ARF with
   hyponatremia/hyperkalemia, with transaminitis and synthetic
   dysfunction. At baseline, he is A&Ox3 but now only oriented to self.
   1. Altered mental status: In the setting of both hyponatremia and
   hepatic (acute?) impairment, the etiology is not entirely clear.  Onset
   seems to be somewhat acute as it seems that the pt was initially able
   to provide a hx in the ED.  He is fully independent at baseline and was
   seen by his PCP within the last month. Neuro exam is non-focal,
   clinical picture seems most c/w acute encephalopathy. ETOH level zero
   several hours after admission and pt denies recent binging, but he does
   have anextensive ETOH hx; exam currently does not suggest withdrawal as
   etiology of AMS. No meningismus on exam and no headache/photophobia.
   --For now, will treat hyponatremia, and attempt to elucidate origins of
   ARF and hepatic failure as they may be source of encephalopathy
   --assess for CNS causes with CT head and possibly LP; low suspicion for
   bacterail meningitis given afebrile, relatively low WBC, nothing on
   exam to suggest, but viral is a possibility.
   --lactulose titrated to 4 BMs per day for the possiblity that hepatic
   encepholopathy may be contributing
   2. Hyponatremia: Hypervolemic hyponatremia vs SIADH. Given low albumin,
   and [**Last Name (un) 2871**] body anasarca, this seems most likely secondary to third
   spacing from hepatic dysfuntion. Urine sodium of 10 despite lasix
   suggests that kidneys are functioning in an extremely sodium avid
   manner.  No evidence of nephrotic range proteinuria currently.  Will
   assess for CNS cause with head CT.  Renal following.
   --Initial attempt at mgt with tolvaptan, q4h chem7 and serial urine
   sodium/osms per renal recs
   --if ineffective, will consider switch to hypertonic saline
   --d/w renal re: salt tabs in setting of tolvaptan; no fluid restriction
   while on tolvatptan
   --f/u renal recs
   --search for causes of SIADH with CT chest/ abd/pelvis
   3. Acute renal failure:  As above, kidneys are functioning in a sodium
   avid manner. Renal team working on urine sediment. Proteinurria is not
   in nephrotic range. CK initially 700 and trending down, likely not
   enough to account for [**Last Name (un) **] although rhabdo may have occured several days
   PTA.
   --Monitor renal fxn
   --Not restricting fluids in setting of tolvaptan, but no IVF given
   hyponatremia, fluid overload, and possibility of SIADH
   --renally dose meds, avoid nephrotoxins, no IV contrast
   4. Hyperkalemia: No EKG chges. Likely secondary to ARF.
   --Improved s/p kayexalate
   --monitor with lytes initially q4h
   --repeat kayexalate if k>5.5
   5. Transminitis/ elevated bili/ synthetic dysfunction: Prior extensive
   hx of ETOH abuse with multiple admissions leading up to [**2119**].  Pt
   denies ETOH x 2 month. His neighbor states 2 years.  AST:ALT ratio on
   admision suggestive of alcoholic liver injury, but AST may be coming
   from other source given CK=700.  INR of 1.6  trending up suggests that
   this process is at least a few days old.  Albumin 2.6. The degree of
   synthetic dysfunction exceeds what I would expect with this limited
   degree of transminitis, but pt may have undiagnosed cirrhosis. As
   above, hepatic process may be contributing to encephalopathy (+
   asterixis).
   -- CT abdomen as pt too obese for adequate US
   --trend LFTS
   --consider hepatology consult
   -- empiric lactulose given AMS
   --hepatitis serologies
   6.  Coagulopathy: Attributing this to hepatic dysfunction
   -- Vitamin K 2mg po, trend
   7. Shortness of Breath: Rapidly improved with albuterol nebs on arrival
   to MICU and subsequently sating in high 90s on room air.  Given his
   reported hx of emphysema, seems like a mild COPD exacerbation that was
   untreated in the ED and floor given presumptive CHF diagnosis.  At this
   point, pt seems to be breathing comfortably on room air.  As metal
   status improved slightly off oxygen, some concern that the may have a
   propensity to retain. As such, would aim for sats in low 90s if supp O2
   needed.
   8. ETOH hx: Despite hx given by pt and neighbor, MCV of 99 and AST:ALT
   pattern suggest continued ETOH.  Not writing for CIWA currently as not
   actively withdrawing and AMS etiology unclear
   --thiamine, folate supplementation; check b12
   9. Possible hx of HIV+: d/w PCP. [**Name10 (NameIs) 141**] currently not consentable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-12-5**] 09:29 AM
   18 Gauge - [**2124-12-5**] 09:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-07 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - COnsensus is that bulk of current presentation is secondary to
   acutely decompensated cirrhosis; per renal he may have type II
   hepatorenal syndrome
   - coffee ground emesis 3 times s/p Hct drop from 31 to 26 last night,
   not scoped per hepatology, too altered
   - did not bump to first unit, but did bump to second unit [**Unit Number **]-->28
   - resumed salt tabs, no [**Last Name (un) 11232**] doses of tolvaptan; renal thought more
   albumin might be good, but hepatology want to wait until tomorrow to
   give more
   - salt tabs resumed
   - MS seems to have mildly improved s/p lactulose enema and a few doses
   of po lacutlose and rifamixin
   - newly uncontrolled HTN, started 10mg nifedipine po q8h; could this be
   ETOH withdrawal? Pt also more tachy than previously
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-6**] 08:01 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-7**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-7**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 93 (84 - 102) bpm
   BP: 176/74(98) {135/57(79) - 195/96(116)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,260 mL
                                                                    693 mL
   PO:
           600 mL
   TF:
   IVF:
                                                                    390 mL
                                                                     70 mL
   Blood products:
                                                                  1,870 mL
                                                                     23 mL
   Total out:
                                                                  1,576 mL
                                                                    212 mL
   Urine:
                                                                    976 mL
                                                                    212 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                    684 mL
                                                                    481 mL
   Respiratory support
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   Pitting edema of the [**Last Name (un) 11244**] ascrum and abdomen. Non-pitting edema of UE.
   RRR III/VI systolic murmur
   Audible wheezes
   More Alert, better able to converse. oriented to self and place, not
   time
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   9.9 g/dL
   111 mg/dL
   3.1 mg/dL
   21 mEq/L
   5.2 mEq/L
   75 mg/dL
   91 mEq/L
   127 mEq/L
   28.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2124-12-5**]  10:14 AM
                             [**2124-12-5**]  10:29 AM
                             [**2124-12-5**]  02:31 PM
                             [**2124-12-5**]  06:08 PM
                             [**2124-12-5**]  10:28 PM
                             [**2124-12-6**]  06:29 AM
                             [**2124-12-6**]  12:23 PM
                             [**2124-12-6**]  03:25 PM
                             [**2124-12-6**]  09:29 PM
                             [**2124-12-7**]  03:18 AM
   WBC
   11.2
   7.0
   8.3
   10.9
   Hct
   31.1
   26.6
   25.0
   25.1
   25.7
   28.0
   Plt
   [**Telephone/Fax (3) 11233**]27
   Cr
   2.7
   2.6
   2.7
   2.7
   2.6
   2.7
   3.1
   TCO2
   22
   Glucose
   80
   83
   90
   90
   87
   93
   111
   Other labs: PT / PTT / INR:20.8/41.6/1.9, CK / CKMB / Troponin-T:225//,
   ALT / AST:37/72, Alk Phos / T Bili:92/8.1, Amylase / Lipase:/77,
   Differential-Neuts:79.1 %, Band:1.0 %, Lymph:12.2 %, Mono:6.5 %,
   Eos:1.8 %, Fibrinogen:160 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:304 IU/L, Ca++:9.7 mg/dL, Mg++:2.8 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy.
   1. Altered mental status/ Hepatic Encephalopathy:  Improving
   significantly on current therapy.
   --continue lactulose, rifamixin
   2. Hyponatremia: Hypervolemic hyponatremiain setting of cirrhosis.
   Possible type II hepatorenal.  Improved s/p tolvaptan, but had also
   gotten significant amount ot albumin. Renal following.
   --q8h to [**Hospital1 7**] Na with U-lytes and U-Osms
   --if decreasing again, will consider switch to hypertonic saline vs
   re-dose tolvaptan
   --anticipate some improvement with albumin dose today
   --f/u renal recs
   3. Acute renal failure: Oligouric this AM,  likely hepatorenal
   --As above, anticipate improvemtn with albumin, consider dosing
   concurrently with lasix as very sodium avid vurrently with U-NA of <10.
   --continue midodrine and octreotide
   --Monitor renal fxn
   --avoiding IVF given hyponatremia in setting of fluid overload
   --renally dose meds, avoid nephrotoxins, no IV contrast
   4. Hyperkalemia: No EKG chges. Likely secondary to ARF.
   --Improved s/p kayexalate
   --repeat kayexalate if k>5.5
   5. Transminitis/ elevated bili/ synthetic dysfunction: acutely
   decompensated cirrhosis.  Per PCP, [**Name10 (NameIs) **] seems that pt now admitting that
   he has been drinking recently.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs
   --if c/o, would go to ET
   6.  Coagulopathy: Attributing this to hepatic dysfunction
   -- Vitamin K po/IV, trend
   7. Shortness of Breath: Rapidly improved with albuterol nebs on arrival
   to MICU
   --CONTINUE NEBS
   8. ETOH hx:  Newly hypertensive/tachycardic. Not tremulous.  Not
   writing for CIWA currently as MS otherwise too clouded.
   --thiamine, folate supplementation
   9. Possible hx of HIV+: d/w PCP: [**Name10 (NameIs) 54**] their records, no reason to think
   he was ever HIV +
   10. Coffee ground emesis/ HCT drop: Did not respond to 1^ST unit PRBC,
   but did respond partially to second unit: [**Unit Number **].7 to 28.
   - IV ppi [**Hospital1 7**]
   - possible scope by GI
   - q4-6H Hct today
   - needs better access, picc ordered
   ICU Care
   Nutrition: 1.5 L fluid restriction, npo for scope
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-5**] 09:31 AM
   Prophylaxis:
   DVT:  sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending improvement

2124-12-08 06:11:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 PICC LINE - START [**2124-12-7**] 12:00 PM
   Small amounts of bloody sputum (hemoptysis) all day and overnight.
   -plan for EGD today
   CXR from yesterday: fluid overloaded vs. opacity
   -20mg IV lasix without much output
   -40mg IV lasix x1
   -diuril x1
   -bumex x1
   -89% on 3L ---> increased to 4L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-7**] 08:10 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-7**] 08:10 PM
   Furosemide (Lasix) - [**2124-12-7**] 09:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-8**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 97 (91 - 102) bpm
   BP: 103/34(49) {99/30(46) - 176/81(101)} mmHg
   RR: 26 (16 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,231 mL
                                                                    145 mL
   PO:
                                                                  1,080 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    427 mL
                                                                     85 mL
   Blood products:
                                                                    723 mL
   Total out:
                                                                    375 mL
                                                                     25 mL
   Urine:
                                                                    375 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,856 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.34/39/45/18/-4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   9.9 g/dL
   139 mg/dL
   3.5 mg/dL
   18 mEq/L
   5.0 mEq/L
   80 mg/dL
   88 mEq/L
   125 mEq/L
   27.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2124-12-5**]  10:28 PM
                             [**2124-12-6**]  06:29 AM
                             [**2124-12-6**]  12:23 PM
                             [**2124-12-6**]  03:25 PM
                             [**2124-12-6**]  09:29 PM
                             [**2124-12-7**]  03:18 AM
                             [**2124-12-7**]  12:42 PM
                             [**2124-12-7**]  04:28 PM
                             [**2124-12-7**]  09:41 PM
                             [**2124-12-7**]  10:38 PM
   WBC
   7.0
   8.3
   10.9
   Hct
   26.6
   25.0
   25.1
   25.7
   28.0
   25.8
   26.7
   27.0
   Plt
   138
   135
   127
   Cr
   2.7
   2.6
   2.7
   3.1
   3.5
   TCO2
   22
   Glucose
   90
   87
   93
   111
   139
   Other labs: PT / PTT / INR:22.2/45.3/2.1, CK / CKMB / Troponin-T:225//,
   ALT / AST:37/72, Alk Phos / T Bili:92/8.1, Amylase / Lipase:/77,
   Differential-Neuts:79.1 %, Band:1.0 %, Lymph:12.2 %, Mono:6.5 %,
   Eos:1.8 %, Fibrinogen:160 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:304 IU/L, Ca++:9.7 mg/dL, Mg++:2.8 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy.
   1. Altered mental status/ Hepatic Encephalopathy:  Improving
   significantly on current therapy.
   --continue lactulose, rifamixin
   2. Hyponatremia: Hypervolemic hyponatremiain setting of cirrhosis.
   Possible type II hepatorenal.  Improved s/p tolvaptan, but had also
   gotten significant amount ot albumin. Renal following.
   --q8h to [**Hospital1 7**] Na with U-lytes and U-Osms
   --if decreasing again, will consider switch to hypertonic saline vs
   re-dose tolvaptan
   --anticipate some improvement with albumin dose today
   --f/u renal recs
   3. Acute renal failure: Oligouric this AM,  likely hepatorenal
   --As above, anticipate improvemtn with albumin, consider dosing
   concurrently with lasix as very sodium avid vurrently with U-NA of <10.
   --continue midodrine and octreotide
   --Monitor renal fxn
   --avoiding IVF given hyponatremia in setting of fluid overload
   --renally dose meds, avoid nephrotoxins, no IV contrast
   4. Hyperkalemia: No EKG chges. Likely secondary to ARF.
   --Improved s/p kayexalate
   --repeat kayexalate if k>5.5
   5. Transminitis/ elevated bili/ synthetic dysfunction: acutely
   decompensated cirrhosis.  Per PCP, [**Name10 (NameIs) **] seems that pt now admitting that
   he has been drinking recently.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs
   --if c/o, would go to ET
   6.  Coagulopathy: Attributing this to hepatic dysfunction
   -- Vitamin K po/IV, trend
   7. Shortness of Breath: Rapidly improved with albuterol nebs on arrival
   to MICU
   --CONTINUE NEBS
   8. ETOH hx:  Newly hypertensive/tachycardic. Not tremulous.  Not
   writing for CIWA currently as MS otherwise too clouded.
   --thiamine, folate supplementation
   9. Possible hx of HIV+: d/w PCP: [**Name10 (NameIs) 54**] their records, no reason to think
   he was ever HIV +
   10. Coffee ground emesis/ HCT drop: Did not respond to 1^ST unit PRBC,
   but did respond partially to second unit: [**Unit Number **].7 to 28.
   - IV ppi [**Hospital1 7**]
   - possible scope by GI
   - q4-6H Hct today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-5**] 09:31 AM
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-09 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2124-12-8**] 09:08 AM
 BLOOD CULTURED - At [**2124-12-8**] 11:20 AM
   Placed on BIPAP yesterday morning for respiratory distress, tolerated
   well
   Went for IR guided dialysis placement, began dialysis in afternoon with
   successful 2L removal of ultrafiltrate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-8**] 08:00 PM
   Ampicillin - [**2124-12-9**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-9**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 102 (99 - 106) bpm
   BP: 128/52(72) {90/38(53) - 135/80(108)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,674 mL
                                                                    276 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    714 mL
                                                                    276 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                  2,243 mL
                                                                      0 mL
   Urine:
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,110 (1 - 1,110) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: ///21/
   Ve: 13.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   8.8 g/dL
   110 mg/dL
   4.8 mg/dL
   21 mEq/L
   4.8 mEq/L
   92 mg/dL
   94 mEq/L
   128 mEq/L
   25.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2124-12-6**]  12:23 PM
                             [**2124-12-6**]  03:25 PM
                             [**2124-12-6**]  09:29 PM
                             [**2124-12-7**]  03:18 AM
                             [**2124-12-7**]  12:42 PM
                             [**2124-12-7**]  04:28 PM
                             [**2124-12-7**]  09:41 PM
                             [**2124-12-7**]  10:38 PM
                             [**2124-12-8**]  05:22 AM
                             [**2124-12-9**]  06:00 AM
   WBC
   8.3
   10.9
   13.2
   15.0
   Hct
   25.0
   25.1
   25.7
   28.0
   25.8
   26.7
   27.0
   26.9
   25.3
   Plt
   135
   127
   139
   100
   Cr
   2.7
   3.1
   3.5
   4.1
   4.8
   TCO2
   22
   Glucose
   93
   111
   139
   135
   110
   Other labs: PT / PTT / INR:24.1/51.6/2.3, CK / CKMB / Troponin-T:225//,
   ALT / AST:26/45, Alk Phos / T Bili:65/6.1, Amylase / Lipase:/77,
   Differential-Neuts:79.1 %, Band:1.0 %, Lymph:12.2 %, Mono:6.5 %,
   Eos:1.8 %, Fibrinogen:160 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:269 IU/L, Ca++:10.3 mg/dL, Mg++:2.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy.
   # Respiratory Distress:  Patient with acute respiratory distress this
   morning likely [**3-6**] to fluid overload in setting of cirrhosis and renal
   failure.  Patient was placed on BIPAP with good response.  Renal was
   notified and patient was taken to IR for dialysis catheter placement.
   He has now underwent dialysis with ultrafiltration.  BIPAP was taken
   off but patient did not tolerate.  Will cont BIPAP overnight
   -- cont BIPAP wean as tolerated
   -- cont dialysis in AM
   # Altered mental status/ Hepatic Encephalopathy:  Improving
   significantly on current therapy.
   --continue lactulose, rifamixin
   # Hyponatremia: Hypervolemic hyponatremiain setting of cirrhosis.
   Possible type II hepatorenal.  Improved s/p tolvaptan, but had also
   gotten significant amount ot albumin. Renal following.
   --q12h Na
   --f/u renal recs
   # Acute renal failure: likely hepatorenal, oliguric, now on HD
   --continue midodrine and octreotide
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD< f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: acutely
   decompensated cirrhosis.  Per PCP, [**Name10 (NameIs) **] seems that pt now admitting that
   he has been drinking recently.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs
   # Coagulopathy: likely [**3-6**] hepatic cirrhosis
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   yesterday, none today.  HCT stable
   - IV ppi [**Hospital1 7**]
   - cont to monitor, no acute issues
   - GI to scope when stable
   # FEN: NPO
   # PPx: PPI
   # Code: Full
   # Comm: with patient
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-5**] 09:31 AM
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Please disregard this note, signed inadvertently prior to editing.
   ------ Protected Section Addendum Entered By:[**Name (NI) 11293**] [**Last Name (NamePattern1) 4826**], MD
   on:[**2124-12-9**] 07:38 AM ------

2124-12-09 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2124-12-8**] 09:08 AM
 BLOOD CULTURED - At [**2124-12-8**] 11:20 AM
   Placed on BIPAP yesterday morning for respiratory distress, tolerated
   well
   Went for IR guided dialysis placement, began dialysis in afternoon with
   successful 2L removal of ultrafiltrate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-8**] 08:00 PM
   Ampicillin - [**2124-12-9**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-9**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 103 (99 - 106) bpm
   BP: 120/81(92) {90/38(53) - 135/81(108)} mmHg
   RR: 24 (14 - 31) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,674 mL
                                                                    278 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    714 mL
                                                                    278 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                  2,243 mL
                                                                      0 mL
   Urine:
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,110 (1 - 1,110) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 85%
   ABG: ///21/
   Ve: 13.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   8.8 g/dL
   110 mg/dL
   4.8 mg/dL
   21 mEq/L
   4.8 mEq/L
   92 mg/dL
   94 mEq/L
   128 mEq/L
   25.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2124-12-6**]  12:23 PM
                             [**2124-12-6**]  03:25 PM
                             [**2124-12-6**]  09:29 PM
                             [**2124-12-7**]  03:18 AM
                             [**2124-12-7**]  12:42 PM
                             [**2124-12-7**]  04:28 PM
                             [**2124-12-7**]  09:41 PM
                             [**2124-12-7**]  10:38 PM
                             [**2124-12-8**]  05:22 AM
                             [**2124-12-9**]  06:00 AM
   WBC
   8.3
   10.9
   13.2
   15.0
   Hct
   25.0
   25.1
   25.7
   28.0
   25.8
   26.7
   27.0
   26.9
   25.3
   Plt
   135
   127
   139
   100
   Cr
   2.7
   3.1
   3.5
   4.1
   4.8
   TCO2
   22
   Glucose
   93
   111
   139
   135
   110
   Other labs: PT / PTT / INR:24.1/51.6/2.3, CK / CKMB / Troponin-T:225//,
   ALT / AST:26/45, Alk Phos / T Bili:65/6.1, Amylase / Lipase:/77,
   Differential-Neuts:79.1 %, Band:1.0 %, Lymph:12.2 %, Mono:6.5 %,
   Eos:1.8 %, Fibrinogen:160 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:269 IU/L, Ca++:10.3 mg/dL, Mg++:2.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy.
   # Respiratory Distress:  Previously attributed to fluid overload in the
   setting of anuria [**3-6**] hepatorenal syndrome. That said, worsening
   leukocytosis & CXR appearance suggestive of HAP.
   -- Covg for HAP: vanco, zosyn, levoflox (anaerobic covg sufficient with
   zosyn); check CDIFF
   -- cont BIPAP wean as tolerated
   -- cont dialysis in AM
   # Enterococcal UTI: discontinue ampicillin, HAP covg will suffice
   # Altered mental status/ Hepatic Encephalopathy:  Improving
   significantly on current therapy.
   --continue lactulose, rifamixin
   # Hyponatremia: Hypervolemic hyponatremiain setting of cirrhosis.
   Possible type II hepatorenal.  Improved s/p tolvaptan, but had also
   gotten significant amount ot albumin. Renal following.
   --q12h Na
   --f/u renal recs
   # Acute renal failure: likely hepatorenal, oliguric, now on HD
   --continue midodrine and octreotide
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD< f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: acutely
   decompensated cirrhosis.  Per PCP, [**Name10 (NameIs) **] seems that pt now admitting that
   he has been drinking recently.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs
   -- d/c ceftriaxone which was covering SBP, HAP covg above will suffice
   # Coagulopathy: likely [**3-6**] hepatic cirrhosis
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   yesterday, none today.  HCT stable
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct [**Hospital1 7**]
   - GI to scope when stable
   # FEN: NPO
   # PPx: PPI
   # Code: Full
   # Comm: with patient
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-5**] 09:31 AM
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT: boots/sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-09 17:40:00 Physician Attending Progress Note
Chief Complaint: hepatic cirrhosis [**3-6**] EtOH, hepatorenal syndrome,
   respiratory failure
   HPI:
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB [**3-6**] volume overload.
   Volume overload [**3-6**] cirrhosis with acute decompensation, likely [**3-6**]
   EtOH.  Hospital course complicated by AMS likely [**3-6**] hepatic
   encephalopathy, coffee-ground emesis with likely aspiration. Pt also
   has respiratory failure requiring BiPap and acute renal failure
   possibly [**3-6**] hepatorenal syndrome.
   24 Hour Events:
   --AMS improved with better lactulose tolerance
   --Respiration stable on BiPap. Off BiPap has marked increase in work of
   breathing.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-8**] 08:00 PM
   Ampicillin - [**2124-12-9**] 06:00 AM
   Vancomycin - [**2124-12-9**] 12:35 PM
   Clindamycin - [**2124-12-9**] 12:36 PM
   Levofloxacin - [**2124-12-9**] 12:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-9**] 08:27 AM
   Pantoprazole (Protonix) - [**2124-12-9**] 08:28 AM
   Metoprolol - [**2124-12-9**] 12:36 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Flowsheet Data as of  [**2124-12-9**] 05:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 112 (93 - 120) bpm
   BP: 115/63(76) {90/40(57) - 137/81(108)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,674 mL
                                                                    732 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    714 mL
                                                                    732 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                  2,243 mL
                                                                  4,000 mL
   Urine:
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                 -3,268 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 610 (1 - 1,110) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///21/
   Ve: 13 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): A/Ox3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   100 K/uL
   110 mg/dL
   4.8 mg/dL
   21 mEq/L
   4.8 mEq/L
   92 mg/dL
   94 mEq/L
   128 mEq/L
   25.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2124-12-6**]  12:23 PM
                             [**2124-12-6**]  03:25 PM
                             [**2124-12-6**]  09:29 PM
                             [**2124-12-7**]  03:18 AM
                             [**2124-12-7**]  12:42 PM
                             [**2124-12-7**]  04:28 PM
                             [**2124-12-7**]  09:41 PM
                             [**2124-12-7**]  10:38 PM
                             [**2124-12-8**]  05:22 AM
                             [**2124-12-9**]  06:00 AM
   WBC
   8.3
   10.9
   13.2
   15.0
   Hct
   25.0
   25.1
   25.7
   28.0
   25.8
   26.7
   27.0
   26.9
   25.3
   Plt
   135
   127
   139
   100
   Cr
   2.7
   3.1
   3.5
   4.1
   4.8
   TCO2
   22
   Glucose
   93
   111
   139
   135
   110
   Other labs: PT / PTT / INR:24.1/51.6/2.3, CK / CKMB / Troponin-T:225//,
   ALT / AST:26/45, Alk Phos / T Bili:65/6.1, Amylase / Lipase:/77,
   Differential-Neuts:79.1 %, Band:1.0 %, Lymph:12.2 %, Mono:6.5 %,
   Eos:1.8 %, Fibrinogen:160 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:269 IU/L, Ca++:10.3 mg/dL, Mg++:2.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB [**3-6**] volume overload
   [**3-6**] cirrhosis with acute decompensation, likely [**3-6**] EtOH.  Hospital
   course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with likely aspiration, respiratory failure
   requiring BiPap and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   #hypoxemic respiratory failure: Likely due to volume overload with
   possible aspiration PNA
   [] BiPap as needed. Patient may require intubation in near future if
   patient has continued respiratory failue and cannot tolerate necessary
   BiPap.
   #Elevated WBC (8 -> 13 -> 15): Etiology unclear, including worsening
   PNA, SBP, UTI, C Diff.
   [] Broaden abx coverage to vanc / zosyn / levofloxacin (covering of
   PNA, including aspiration source with poor dentition, SBP)
   [] U/A, urine cx
   [] C Diff
   [] sputum g/s + cx if possible
   [] blood cx
   #hct 28 -> 25 (p 1upRBC coffe ground)
   [] hct q8h, hct goal 25
   #AKD with possible hepatorenal: cont octreotide, midodrine
   --HD per renal (HD planned today for net -4L)
   #HypoNa: stable
   [] check Na [**Hospital1 **], if drops, consider tolvaptain renal / tolvaptan
   ICU Care
   Nutrition:
   Comments: NPO [**3-6**] respiratory compromise. Will re-assess nutrition in
   AM
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-5**] 09:31 AM
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 575**]
s note
   as outlined above, including assessment and plan. I would add: 61 yo
   male with schizophrenia admitted with anasarca, hyponatremia, and acute
   renal failure with evidence of new liver synthetic function. Broad
   consensus is that there was pre-existing liver cirrhosis which acutely
   decompensated likely from alcohol ingestion. Other hospital events
   notable for hepatic encephalopathy and coffee grds emesis- latter
   spont. Resolved and EGD not performed due to pt
s then-marginal mental
   status.
   Though hyponatremia and mental status improving, renal function
   worsening with pulmonary edema- likely HRS. In this context, pt
   developed worsening acute respiratory distress now on NIPPV. HD started
   yesterday, but with persistent bilateral infiltrates and worsening
   tachypnea despite fluid removal. Suspect he may have aspirated- abx
   coverage broadened to include HAP organisms.
   Plan to continue support with NIPPV, remove fluid as tolerated by HD.
   If resp status continues to deteriorate, may require intubation.
   Getting in touch with pt
s next of [**Doctor First Name 372**] has remained a challenge. [**Month (only) 51**] be
   worthwhile getting SW involved.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2124-12-9**] 18:27 ------

2124-12-10 08:02:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
   - NIPPV continued, moderate skin breakdown
   - started coverage for HAP with vanco, cefepime, levoflox. Ampicillin
   (for UTI) and Ceftriaxone (for SBP) stopped given coverage with
   cefepime.
   - cdiff sent
   - had another session of HD
   Intubated this morning for worsening respiratory distress
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-8**] 08:00 PM
   Ampicillin - [**2124-12-9**] 06:00 AM
   Vancomycin - [**2124-12-9**] 12:35 PM
   Clindamycin - [**2124-12-9**] 12:36 PM
   Levofloxacin - [**2124-12-9**] 12:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-9**] 08:27 AM
   Metoprolol - [**2124-12-9**] 12:36 PM
   Pantoprazole (Protonix) - [**2124-12-9**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-10**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.5
   HR: 93 (76 - 120) bpm
   BP: 128/47(66) {107/43(60) - 137/83(87)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    810 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                    810 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,190 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,208 (551 - 1,429) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 89%
   ABG: ///22/
   Ve: 10.6 L/min
   Physical Examination
   GEN: intubated, sedated
   CVS: +S1/S2, no M/R/G, RRR
   LUNGS: +diffuse crackles, no wheezes or ronchi on anterior exam
   ABD: +BS, NT/ND
   EXT: +3 pitting edema bilateral Lower extremities and upper extremities
   Labs / Radiology
   102 K/uL
   9.1 g/dL
   102 mg/dL
   5.1 mg/dL
   22 mEq/L
   5.2 mEq/L
   84 mg/dL
   98 mEq/L
   132 mEq/L
   27.6 %
   18.2 K/uL
        [image002.jpg]
   [**12-8**] RPR pending
   Blood culture pending
   [**12-5**] Urine culture: enterococcus
                             [**2124-12-6**]  09:29 PM
                             [**2124-12-7**]  03:18 AM
                             [**2124-12-7**]  12:42 PM
                             [**2124-12-7**]  04:28 PM
                             [**2124-12-7**]  09:41 PM
                             [**2124-12-7**]  10:38 PM
                             [**2124-12-8**]  05:22 AM
                             [**2124-12-9**]  06:00 AM
                             [**2124-12-9**]  05:32 PM
                             [**2124-12-10**]  04:28 AM
   WBC
   10.9
   13.2
   15.0
   18.2
   Hct
   25.7
   28.0
   25.8
   26.7
   27.0
   26.9
   25.3
   27.8
   27.6
   Plt
   127
   139
   100
   102
   Cr
   3.1
   3.5
   4.1
   4.8
   5.1
   TCO2
   22
   Glucose
   111
   139
   135
   110
   102
   Other labs: PT / PTT / INR:23.6/55.4/2.2, CK / CKMB / Troponin-T:225//,
   ALT / AST:28/50, Alk Phos / T Bili:67/6.5, Amylase / Lipase:/77,
   Differential-Neuts:79.1 %, Band:1.0 %, Lymph:12.2 %, Mono:6.5 %,
   Eos:1.8 %, Fibrinogen:160 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:269 IU/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy.
   # Respiratory Distress:  Previously attributed to fluid overload in the
   setting of anuria [**3-6**] hepatorenal syndrome. That said, worsening
   leukocytosis & CXR appearance suggestive of HAP.
   -- Covg for HAP day 2 : vanco, cefepime, levoflox (anaerobic covg
   sufficient with zosyn); check CDIFF
   -- plan for HD tomorrow, per renal
   # Enterococcal UTI: discontinue ampicillin, HAP covg will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improving
   significantly on current therapy.
   --continue lactulose, rifamixin
   # Hyponatremia: resolving.  Hypervolemic hyponatremiain setting of
   cirrhosis. Possible type II hepatorenal.  Improved s/p tolvaptan, but
   had also gotten significant amount ot albumin. Renal following.
   --follow daily chem 10
   --f/u renal recs
   # Acute renal failure: likely hepatorenal, oliguric, now on HD
   --continue midodrine and octreotide
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD< f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving.
   acutely decompensated cirrhosis.  Per PCP, [**Name10 (NameIs) **] seems that pt now
   admitting that he has been drinking recently.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs
   -- d/c ceftriaxone which was covering SBP, HAP covg above will suffice
   # Coagulopathy: likely [**3-6**] hepatic cirrhosis
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 2
   days ago. Had some small clots from ET tube and OG tube this morning.
   HCT stable
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct [**Hospital1 7**]
   - active T&S
   - GI to scope when stable
   # FEN: NPO
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: with patient
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-5**] 09:31 AM
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-10 08:22:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, renal failure, hepatic failure
   HPI: 61M (h/o hypertension, COPD, ETOH abuse) p/w SOB [**3-6**] volume
   overload [**3-6**] cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with likely aspiration, respiratory failure
   requiring BiPap and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   24 Hour Events:
   Continued desat on NRB and failure to tolerate further BiPap. Intubated
   this AM for hypoxemic respiratory failure.
   s/p HD -4L net yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-8**] 08:00 PM
   Ampicillin - [**2124-12-9**] 06:00 AM
   Vancomycin - [**2124-12-9**] 12:35 PM
   Clindamycin - [**2124-12-9**] 12:36 PM
   Levofloxacin - [**2124-12-9**] 12:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-12-9**] 08:27 AM
   Metoprolol - [**2124-12-9**] 12:36 PM
   Pantoprazole (Protonix) - [**2124-12-9**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-10**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.5
   HR: 93 (76 - 120) bpm
   BP: 128/47(66) {107/43(60) - 131/83(87)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    810 mL
                                                                     84 mL
   PO:
             TF:
   IVF:
                                                                    810 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,190 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,208 (551 - 1,429) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 89%
   ABG: ///22/
   Ve: 10.6 L/min
   Physical Examination
   GEN: responds inappropriately to questions prior to intubation. Now
   sedated.
   HEENT: intubated
   Cor: distant HS, RRR no m/r/g
   Lung: reduced BS, bilateral rhonchi
   Abd: soft, distended +BS
   Ext: bilateral 3+ pit LE edema
   Peripheral Vascular: (Right radial pulse: intact), (Left radial pulse:
   intact),
   Skin:  intact
   Neurologic: non-focal, responds inappropriately to questions.
   Labs / Radiology
   9.1 g/dL
   102 K/uL
   102 mg/dL
   5.1 mg/dL
   22 mEq/L
   5.2 mEq/L
   84 mg/dL
   98 mEq/L
   132 mEq/L
   27.6 %
   18.2 K/uL
        [image002.jpg]
                             [**2124-12-6**]  09:29 PM
                             [**2124-12-7**]  03:18 AM
                             [**2124-12-7**]  12:42 PM
                             [**2124-12-7**]  04:28 PM
                             [**2124-12-7**]  09:41 PM
                             [**2124-12-7**]  10:38 PM
                             [**2124-12-8**]  05:22 AM
                             [**2124-12-9**]  06:00 AM
                             [**2124-12-9**]  05:32 PM
                             [**2124-12-10**]  04:28 AM
   WBC
   10.9
   13.2
   15.0
   18.2
   Hct
   25.7
   28.0
   25.8
   26.7
   27.0
   26.9
   25.3
   27.8
   27.6
   Plt
   127
   139
   100
   102
   Cr
   3.1
   3.5
   4.1
   4.8
   5.1
   TCO2
   22
   Glucose
   111
   139
   135
   110
   102
   Other labs: PT / PTT / INR:23.6/55.4/2.2, CK / CKMB / Troponin-T:225//,
   ALT / AST:28/50, Alk Phos / T Bili:67/6.5, Amylase / Lipase:/77,
   Differential-Neuts:79.1 %, Band:1.0 %, Lymph:12.2 %, Mono:6.5 %,
   Eos:1.8 %, Fibrinogen:160 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:269 IU/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB [**3-6**] volume overload
   [**3-6**] cirrhosis with acute decompensation, likely [**3-6**] EtOH.  Hospital
   course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with likely aspiration, respiratory failure
   requiring BiPap and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   #hypoxemic respiratory failure: Likely due to volume overload with
   possible aspiration / HAP. Intubated.
   -- on vanc / cefepime / levaquin (day 2)
   [] a-line
   [] defer chest CT now. However, if continued fever or worsening
   clinical status after >48hr abx for HAP, likely consider chest CT.
   #Elevated WBC (8 -> 13 -> 15 -> 18): Etiology unclear, including
   worsening PNA, SBP, UTI, C Diff.
   HD/ PICC placed Thurs / Fri
   -- send C. Diff
   -- blood cx
ed yesterday
   -- defer chest CT (see above)
   [] check lipase
   [] sputum g/s + cx
   #hct 28 -> 25 -> 27 (p 1upRBC coffe ground). Blood per o-g / ETT
   (likely intubation trauma in elevated INR)
   [] hct [**Hospital1 **], hct goal 25
   [] discuss with GI re: plan for ?EGD
   #AKD with possible hepatorenal or ATI: cont octreotide, midodrine, HD
   per renal
   [] bladder pressure
   #HypoNa: stable, check qday. if drops, consider tolvaptain renal /
   tolvaptan
   ICU Care
   Nutrition:Defer tube feed, if hct stable in AM, consider starting tube
   feed
   Glycemic Control: ISS
   Lines:
   18 Gauge - [**2124-12-5**] 09:31 AM
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT: INR elevated [**3-6**] hepaticfailure
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  On Monday social work c/s to help locate father/HCP
   [**Name (NI) 36**] status: Full code
   Disposition : MICU
   Total time spent: 30mins
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He developed worsening respiratory fatigue earlier today and needed
   intubation. He will need continued help with fluid removal ( ? daily HD
   for now) and we will adjust PEEP/ FiO2 to help with ventilation and
   oxygenation. He does not appear to have any significant urine output.
   He is now on broader coverage for HAP which has been dose adjusted for
   creatinine clearance.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2124-12-10**] 15:58 ------

2124-12-11 06:11:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2124-12-10**] 09:20 AM
 INVASIVE VENTILATION - START [**2124-12-10**] 09:20 AM
   switched from fentanyl/versed to propofol
   renal recommended abd US to eval ascites, may benefit from paracentesis
   given elevated bladder pressures (? abdominal compartment syndrome)
   US: poor quality, but no ascites seen
   PM HCT 25.3
   A-line fell out at 6am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-8**] 08:00 PM
   Ampicillin - [**2124-12-9**] 06:00 AM
   Vancomycin - [**2124-12-9**] 12:35 PM
   Clindamycin - [**2124-12-9**] 12:36 PM
   Levofloxacin - [**2124-12-9**] 12:36 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-11**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 59 (59 - 96) bpm
   BP: 104/47(61) {98/45(58) - 154/69(93)} mmHg
   RR: 26 (0 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    587 mL
                                                                    326 mL
   PO:
             TF:
   IVF:
                                                                    587 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                     37 mL
                                                                     18 mL
   Urine:
                                                                     37 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 93%
   ABG: 7.36/36/212/19/-4
   Ve: 15.7 L/min
   PaO2 / FiO2: 530
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   9.0 g/dL
   101 mg/dL
   6.0 mg/dL
   19 mEq/L
   5.0 mEq/L
   104 mg/dL
   98 mEq/L
   132 mEq/L
   25.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2124-12-8**]  05:22 AM
                             [**2124-12-9**]  06:00 AM
                             [**2124-12-9**]  05:32 PM
                             [**2124-12-10**]  04:28 AM
                             [**2124-12-10**]  01:02 PM
                             [**2124-12-10**]  01:12 PM
                             [**2124-12-10**]  05:57 PM
                             [**2124-12-10**]  06:09 PM
                             [**2124-12-11**]  04:26 AM
                             [**2124-12-11**]  04:30 AM
   WBC
   13.2
   15.0
   18.2
   15.2
   12.4
   Hct
   26.9
   25.3
   27.8
   27.6
   27.1
   25.3
   25.6
   Plt
   139
   100
   102
   90
   88
   Cr
   4.1
   4.8
   5.1
   5.3
   5.4
   6.0
   TCO2
   23
   21
   21
   Glucose
   135
   110
   102
   111
   108
   101
   Other labs: PT / PTT / INR:22.7/51.6/2.1, CK / CKMB / Troponin-T:225//,
   ALT / AST:28/50, Alk Phos / T Bili:67/6.5, Amylase / Lipase:/51,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:1.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:4.5 g/dL,
   LDH:269 IU/L, Ca++:9.6 mg/dL, Mg++:2.9 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy.
   # Respiratory Distress:  Previously attributed to fluid overload in the
   setting of anuria [**3-6**] hepatorenal syndrome. That said, worsening
   leukocytosis & CXR appearance suggestive of HAP.
   -- Covg for HAP day 2 : vanco, cefepime, levoflox (anaerobic covg
   sufficient with zosyn); check CDIFF
   -- plan for HD tomorrow, per renal
   # Enterococcal UTI: discontinue ampicillin, HAP covg will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improving
   significantly on current therapy.
   --continue lactulose, rifamixin
   # Hyponatremia: resolving.  Hypervolemic hyponatremiain setting of
   cirrhosis. Possible type II hepatorenal.  Improved s/p tolvaptan, but
   had also gotten significant amount ot albumin. Renal following.
   --follow daily chem 10
   --f/u renal recs
   # Acute renal failure: likely hepatorenal, oliguric, now on HD
   --continue midodrine and octreotide
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD< f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving.
   acutely decompensated cirrhosis.  Per PCP, [**Name10 (NameIs) **] seems that pt now
   admitting that he has been drinking recently.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs
   -- d/c ceftriaxone which was covering SBP, HAP covg above will suffice
   # Coagulopathy: likely [**3-6**] hepatic cirrhosis
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 2
   days ago. Had some small clots from ET tube and OG tube this morning.
   HCT stable
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct [**Hospital1 7**]
   - active T&S
   - GI to scope when stable
   # FEN: NPO
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: with patient
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-11 09:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - A line replaced
   - No HD yesterday
   - Abd U/S - No ascites
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-8**] 08:00 PM
   Ampicillin - [**2124-12-9**] 06:00 AM
   Vancomycin - [**2124-12-9**] 12:35 PM
   Clindamycin - [**2124-12-9**] 12:36 PM
   Levofloxacin - [**2124-12-9**] 12:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-11**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35
C (95
   HR: 56 (56 - 94) bpm
   BP: 86/40(51) {86/40(51) - 134/82(95)} mmHg
   RR: 24 (0 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
   Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                    587 mL
                                                                    365 mL
   PO:
   TF:
   IVF:
                                                                    587 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                     37 mL
                                                                     18 mL
   Urine:
                                                                     37 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 93%
   ABG: 7.36/36/212/19/-4
   Ve: 15.7 L/min
   PaO2 / FiO2: 530
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   88 K/uL
   101 mg/dL
   6.0 mg/dL
   19 mEq/L
   5.0 mEq/L
   104 mg/dL
   98 mEq/L
   132 mEq/L
   25.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2124-12-8**]  05:22 AM
                             [**2124-12-9**]  06:00 AM
                             [**2124-12-9**]  05:32 PM
                             [**2124-12-10**]  04:28 AM
                             [**2124-12-10**]  01:02 PM
                             [**2124-12-10**]  01:12 PM
                             [**2124-12-10**]  05:57 PM
                             [**2124-12-10**]  06:09 PM
                             [**2124-12-11**]  04:26 AM
                             [**2124-12-11**]  04:30 AM
   WBC
   13.2
   15.0
   18.2
   15.2
   12.4
   Hct
   26.9
   25.3
   27.8
   27.6
   27.1
   25.3
   25.6
   Plt
   139
   100
   102
   90
   88
   Cr
   4.1
   4.8
   5.1
   5.3
   5.4
   6.0
   TCO2
   23
   21
   21
   Glucose
   135
   110
   102
   111
   108
   101
   Other labs: PT / PTT / INR:22.7/51.6/2.1, CK / CKMB / Troponin-T:225//,
   ALT / AST:28/50, Alk Phos / T Bili:67/6.5, Amylase / Lipase:/51,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:1.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:4.5 g/dL,
   LDH:269 IU/L, Ca++:9.6 mg/dL, Mg++:2.9 mg/dL, PO4:6.0 mg/dL
   Imaging: CXR - Improving pulmonary edema.  Missing most of L chest on
   window.
   Microbiology: No new data.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB [**3-6**] volume overload
   [**3-6**] cirrhosis with acute decompensation, likely [**3-6**] EtOH.  Hospital
   course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with likely aspiration, respiratory failure
   requiring BiPap and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   #hypoxemic respiratory failure: Likely due to volume overload with
   possible aspiration / HAP. Intubated.
   -- on vanc / cefepime / levaquin (day 2)
   [] a-line
   [] defer chest CT now. However, if continued fever or worsening
   clinical status after >48hr abx for HAP, likely consider chest CT.
   #Elevated WBC (8 -> 13 -> 15 -> 18): Etiology unclear, including
   worsening PNA, SBP, UTI, C Diff.
   HD/ PICC placed Thurs / Fri
   -- send C. Diff
   -- blood cx
ed yesterday
   -- defer chest CT (see above)
   [] check lipase
   [] sputum g/s + cx
   #hct 28 -> 25 -> 27 (p 1upRBC coffe ground). Blood per o-g / ETT
   (likely intubation trauma in elevated INR)
   [] hct [**Hospital1 **], hct goal 25
   [] discuss with GI re: plan for ?EGD
   #AKD with possible hepatorenal or ATI: cont octreotide, midodrine, HD
   per renal
   [] bladder pressure
   #HypoNa: stable, check qday. if drops, consider tolvaptain renal /
   tolvaptan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-12-12 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT Torso done yesterday which showed +GGO consistent with multifocal
   PNA.  +minimal ascites which has decreased since the last film. Ascited
   not amenable to tap per Radiology.
   +O2 desaturation yesterday afternoon with O2 sat in high 80s.  PEEP
   increased to 14 with good response, O2 sat now 95-97%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-9**] 12:35 PM
   Clindamycin - [**2124-12-9**] 12:36 PM
   Levofloxacin - [**2124-12-9**] 12:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-12**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 56 (56 - 68) bpm
   BP: 121/49(66) {107/49(64) - 163/97(108)} mmHg
   RR: 22 (0 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    666 mL
                                                                    316 mL
   PO:
             TF:
   IVF:
                                                                    666 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                     18 mL
                                                                      0 mL
   Urine:
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    648 mL
                                                                    316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.37/35/74/18/-3
   Ve: 13 L/min
   PaO2 / FiO2: 185
   Physical Examination
   2+ piting edema of the lower ext b/l and abdomen slightly improved. Rrr
   distant s1/s2. no mr/g appreciable. Sedated, not responsive to pain
   Labs / Radiology
   90 K/uL
   9.3 g/dL
   97 mg/dL
   6.1 mg/dL
   18 mEq/L
   4.7 mEq/L
   91 mg/dL
   100 mEq/L
   132 mEq/L
   27.3 %
   12.4 K/uL
        [image002.jpg]
                             [**2124-12-10**]  01:02 PM
                             [**2124-12-10**]  01:12 PM
                             [**2124-12-10**]  05:57 PM
                             [**2124-12-10**]  06:09 PM
                             [**2124-12-11**]  04:26 AM
                             [**2124-12-11**]  04:30 AM
                             [**2124-12-11**]  05:42 PM
                             [**2124-12-11**]  07:47 PM
                             [**2124-12-11**]  09:24 PM
                            [**2124-12-12**]  06:01 AM
   WBC
   15.2
   12.4
   12.4
   Hct
   27.1
   25.3
   25.6
   26.5
   27.3
   Plt
   90
   88
   90
   Cr
   5.3
   5.4
   6.0
   6.1
   TCO2
   23
   21
   21
   21
   21
   Glucose
   111
   108
   101
   97
   Other labs: PT / PTT / INR:21.0/44.2/1.9, CK / CKMB / Troponin-T:225//,
   ALT / AST:31/95, Alk Phos / T Bili:57/6.3, Amylase / Lipase:/51,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:1.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:3.6 g/dL,
   LDH:269 IU/L, Ca++:9.4 mg/dL, Mg++:2.8 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy. Now with multifocal PNA.
   # Respiratory Distress:  Previously attributed to fluid overload in the
   setting of anuria [**3-6**] hepatorenal syndrome. Based on recent CT torso,
   seems to have developed a multifocal HAP.
   -- Covg for HAP day 4 : vanco, cefepime,
   -- Requirement for high peep to maintain oxygenation not surprising
   given body habitus, if need for higer peep, would obtain esophageal
   balloon
   -- glucan, galactomannam, fungal cxs sent
   # Enterococcal UTI: HAP covg will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy, but now unable to assess [**3-6**]
   lingering effects of sedation
   --continue lactulose, rifamixin
   # Hyponatremia: resolving.  Hypervolemic hyponatremiain setting of
   cirrhosis. Possible type II hepatorenal. Renal following.
   --follow daily chem 10
   --f/u renal recs
   # Acute renal failure: likely hepatorenal, oliguric, now on HD
   --continue midodrine and octreotide; d/w renal the benefit of these now
   that pt is on HD
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD TODAY; f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving:  [**3-6**]
   acutely decompensated alcoholic cirrhosis
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs: role for addntl albumin?
   # Coagulopathy: likely [**3-6**] hepatic cirrhosis
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 3
   days ago..  HCT stable
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: NPO
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: with patient
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-12 11:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CT torso - GGO and air bronchograms suggests focal PNA, ascites not
   amenable to tap
   - Increased PEEP to 14 for desaturation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-9**] 12:35 PM
   Clindamycin - [**2124-12-9**] 12:36 PM
   Levofloxacin - [**2124-12-9**] 12:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-12**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.1
C (95.1
   HR: 60 (55 - 68) bpm
   BP: 133/50(71) {107/49(64) - 163/97(108)} mmHg
   RR: 17 (0 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    666 mL
                                                                    351 mL
   PO:
             TF:
   IVF:
                                                                    666 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                     18 mL
                                                                      0 mL
   Urine:
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    648 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/35/74/18/-3
   Ve: 13 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   90 K/uL
   97 mg/dL
   6.1 mg/dL
   18 mEq/L
   4.7 mEq/L
   91 mg/dL
   100 mEq/L
   132 mEq/L
   27.3 %
   12.4 K/uL
        [image002.jpg]
                             [**2124-12-10**]  01:02 PM
                             [**2124-12-10**]  01:12 PM
                             [**2124-12-10**]  05:57 PM
                             [**2124-12-10**]  06:09 PM
                             [**2124-12-11**]  04:26 AM
                             [**2124-12-11**]  04:30 AM
                             [**2124-12-11**]  05:42 PM
                             [**2124-12-11**]  07:47 PM
                             [**2124-12-11**]  09:24 PM
                            [**2124-12-12**]  06:01 AM
   WBC
   15.2
   12.4
   12.4
   Hct
   27.1
   25.3
   25.6
   26.5
   27.3
   Plt
   90
   88
   90
   Cr
   5.3
   5.4
   6.0
   6.1
   TCO2
   23
   21
   21
   21
   21
   Glucose
   111
   108
   101
   97
   Other labs: PT / PTT / INR:21.0/44.2/1.9, CK / CKMB / Troponin-T:225//,
   ALT / AST:31/95, Alk Phos / T Bili:57/6.3, Amylase / Lipase:/51,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:1.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:3.6 g/dL,
   LDH:269 IU/L, Ca++:9.4 mg/dL, Mg++:2.8 mg/dL, PO4:5.7 mg/dL
   Imaging: CXR - B/L infiltrates c/w edema + possible RLL PNA.  CT chest
   - multifocal PNA with superimposed edema on background of severe COPD.
   Microbiology: C. diff negative.  All cx either pending or negative.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB [**3-6**] volume overload
   [**3-6**] cirrhosis with acute decompensation, likely [**3-6**] EtOH.  Hospital
   course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with likely aspiration, respiratory failure
   requiring intubation and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Intubated.
   - Continue abx
   - Wean FiO2 as tolerated, will need PEEP to offset chest wall edema
   - F/U Sputum culture
   - Bronchodilators
   # Coffee ground emesis:
   - Continue PPI [**Hospital1 7**]
   - Daily Hct
   - Repeat this afternoon
   - EGD deferred to unspecified future date
   #AKD with possible hepatorenal syndrome or ATI:
   - Cont octreotide, midodrine, HD per renal.  [**Month (only) 51**] benefit from daily HD
   for a few days vs CVVH
   - Daily bladder pressure
   # Hypotension:
   - Stable for now
   - Hold anti-HTN
   - Extensive infectious work-up yesterday with only evidence of PNA that
   is being adequately covered
   Check fungal cultures, cortisol
   # Cirrhosis: Elevated ALT and Tbili today like from infection.
   - Will follow
   #HypoNa: stable, check qday. if drops, consider tolvaptan
   ICU Care
   Nutrition: Nutrition consult for TF.
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-12-13 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2124-12-12**] 02:38 PM
   Blood Cultures x2 Fungal x1
 BLOOD CULTURED - At [**2124-12-12**] 05:00 PM
   off PICC
   - 6L off by HD
   - Funal cxs and markers sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-12**] 04:07 PM
   Vancomycin - [**2124-12-12**] 06:28 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-12**] 01:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 81 (55 - 87) bpm
   BP: 148/56(78) {119/44(64) - 152/79(104)} mmHg
   RR: 21 (17 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    960 mL
                                                                    261 mL
   PO:
             TF:
                                                                    110 mL
                                                                    134 mL
   IVF:
                                                                    730 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  6,645 mL
                                                                     60 mL
   Urine:
   NG:
                                                                     45 mL
                                                                     60 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -5,685 mL
                                                                    201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.33/36/119/19/-6
   Ve: 12.3 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Obese
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   105 K/uL
   9.5 g/dL
   97 mg/dL
   6.2 mg/dL
   19 mEq/L
   4.3 mEq/L
   87 mg/dL
   102 mEq/L
   134 mEq/L
   28.1 %
   19.6 K/uL
        [image002.jpg]
                             [**2124-12-11**]  04:26 AM
                             [**2124-12-11**]  04:30 AM
                             [**2124-12-11**]  05:42 PM
                             [**2124-12-11**]  07:47 PM
                             [**2124-12-11**]  09:24 PM
                            [**2124-12-12**]  06:01 AM
                            [**2124-12-12**]  11:12 AM
                            [**2124-12-13**]  05:19 AM
                            [**2124-12-13**]  05:24 AM
                            [**2124-12-13**]  06:33 AM
   WBC
   12.4
   12.4
   19.6
   Hct
   25.6
   26.5
   27.3
   28.1
   Plt
   88
   90
   105
   Cr
   6.0
   6.1
   6.2
   TCO2
   21
   21
   21
   19
   20
   20
   Glucose
   101
   97
   97
   Other labs: PT / PTT / INR:20.4/44.9/1.9, CK / CKMB / Troponin-T:225//,
   ALT / AST:32/78, Alk Phos / T Bili:69/7.0, Amylase / Lipase:/51,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:1.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.6 g/dL,
   LDH:324 IU/L, Ca++:9.1 mg/dL, Mg++:2.7 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy. Now with multifocal PNA.
   # Respiratory Distress:  Previously attributed to fluid overload in the
   setting of anuria [**3-6**] hepatorenal syndrome. Based on recent CT torso,
   seems to have developed a multifocal HAP.
   -- Covg for HAP day 4 : vanco, cefepime,
   -- Requirement for high peep to maintain oxygenation not surprising
   given body habitus, if need for higer peep, would obtain esophageal
   balloon
   -- glucan, galactomannam, fungal cxs sent
   # Enterococcal UTI: HAP covg will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy, but now unable to assess [**3-6**]
   lingering effects of sedation
   --continue lactulose, rifamixin
   # Hyponatremia: resolving.  Hypervolemic hyponatremiain setting of
   cirrhosis. Possible type II hepatorenal. Renal following.
   --follow daily chem 10
   --f/u renal recs
   # Acute renal failure: likely hepatorenal, oliguric, now on HD
   --continue midodrine and octreotide; d/w renal the benefit of these now
   that pt is on HD
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD TODAY; f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving:  [**3-6**]
   acutely decompensated alcoholic cirrhosis
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   --midodrine, octreotide, lactulose, rifamixin
   --f/u hepatology recs: role for addntl albumin?
   # Coagulopathy: likely [**3-6**] hepatic cirrhosis
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 3
   days ago..  HCT stable
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: NPO
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: with patient
   # Dispo: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-12**] 06:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-13 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - 6L negative with HD yesterday
   - Fungal cultures and markers sent
   - PEEP decreased to 10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-12**] 04:07 PM
   Vancomycin - [**2124-12-12**] 06:28 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-13**] 08:04 AM
   Other medications:
   Lactulose, folate, MV, Rifaximin, Midodrine, Octreotide, PPI,
   Levofloxacin, Vanco per HD, Cefepime, Atrovent MDI, Albuterol, Propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-13**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 85 (60 - 87) bpm
   BP: 150/57(80) {129/44(64) - 152/79(104)} mmHg
   RR: 22 (17 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    960 mL
                                                                    418 mL
   PO:
             TF:
                                                                    110 mL
                                                                    160 mL
   IVF:
                                                                    730 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  6,645 mL
                                                                     60 mL
   Urine:
   NG:
                                                                     45 mL
                                                                     60 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -5,685 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.33/36/119/19/-6
   Ve: 12.1 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   105 K/uL
   97 mg/dL
   6.2 mg/dL
   19 mEq/L
   4.3 mEq/L
   87 mg/dL
   102 mEq/L
   134 mEq/L
   28.1 %
   19.6 K/uL
        [image002.jpg]
                             [**2124-12-11**]  04:26 AM
                             [**2124-12-11**]  04:30 AM
                             [**2124-12-11**]  05:42 PM
                             [**2124-12-11**]  07:47 PM
                             [**2124-12-11**]  09:24 PM
                            [**2124-12-12**]  06:01 AM
                            [**2124-12-12**]  11:12 AM
                            [**2124-12-13**]  05:19 AM
                            [**2124-12-13**]  05:24 AM
                            [**2124-12-13**]  06:33 AM
   WBC
   12.4
   12.4
   19.6
   Hct
   25.6
   26.5
   27.3
   28.1
   Plt
   88
   90
   105
   Cr
   6.0
   6.1
   6.2
   TCO2
   21
   21
   21
   19
   20
   20
   Glucose
   101
   97
   97
   Other labs: PT / PTT / INR:20.4/44.9/1.9, CK / CKMB / Troponin-T:225//,
   ALT / AST:32/78, Alk Phos / T Bili:69/7.0, Amylase / Lipase:/51,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:1.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.6 g/dL,
   LDH:324 IU/L, Ca++:9.1 mg/dL, Mg++:2.7 mg/dL, PO4:6.1 mg/dL, [**Last Name (un) **] stim
   from 12 to 17
   Imaging: CXR - Decreased pulmonary edema, persistent effusions.
   Microbiology: No new culture data.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Intubated.
   - Continue vanc/levo/cefepime
   - Wean FiO2 as tolerated, would not ween PEEP any further as likely
   needs high PEEP to offset chest wall edema and obesity
   - Bronchodilators
   #AKD with possible hepatorenal syndrome or ATI:
   - Discuss d/c
ing octreotide and midodrine per renal.
   - Continue daily HD to remove large amount of fluid
   - Daily bladder pressure
   # Hypotension / Elevated WBC count/ Hypothermia: Extensive infectious
   work-up with only evidence of possible PNA that is being adequately
   covered.
   - Continue antibiotics
   - Hold anti-HTN
   - F/u fungal cultures, check c. diff
   Will perform BAL today to assess secretions RLL
   Cortisol is inappropriately low for amount of stress but still loathe
   to start steroids until fungal cultures are clear and no e/o
   enterocolitis
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.
   - Will follow
   - Continue lactulose
   - Thiamine/Folate
   # Coffee ground emesis:
   - Continue PO PPI [**Hospital1 7**]
   - Daily Hct
   - EGD deferred to unspecified future date
   #HypoNa: S/p tolvaptan.  Now stable, check qday.
   ICU Care
   Nutrition: TF shut off because of high residuals. Consider reglan if
   persistent.
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-12-14 06:40:00 Physician Resident Progress Note
Chief Complaint: fevers, altered mental status
   24 Hour Events:
 BRONCHOSCOPY - At [**2124-12-13**] 03:38 PM
   hemorrhagic secretions in RLL
   -d/c-ed octreotide and midodrine
   -contact[**Name (NI) **] [**Name2 (NI) 1506**] (# updated, would like to be contact[**Name (NI) **] daily for
   updates)
   Father  -[**Name (NI) 3758**] (dad) and [**Name (NI) **] (Mom) [**Name (NI) **] [**Name (NI) 207**]: [**Telephone/Fax (1) 11432**]  Cell:
   [**Telephone/Fax (1) 11433**]
   HD: Took off 6L
   Drug rash all over his back: benadryl and topical hydrocortisone
   Hypertensive: 10 IV hydralazine wtih good effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-12**] 04:07 PM
   Vancomycin - [**2124-12-12**] 06:28 PM
   Levofloxacin - [**2124-12-13**] 02:00 PM
   Cefipime - [**2124-12-13**] 04:53 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-13**] 08:04 AM
   Hydralazine - [**2124-12-13**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-14**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 66 (66 - 88) bpm
   BP: 157/54(77) {86/48(64) - 185/106(120)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,021 mL
                                                                    180 mL
   PO:
             TF:
                                                                    281 mL
                                                                    113 mL
   IVF:
                                                                    400 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  6,080 mL
                                                                  1,015 mL
   Urine:
                                                                     20 mL
                                                                     15 mL
   NG:
                                                                     60 mL
   Stool:
   1,000 mL
   Drains:
   Balance:
                                                                 -5,059 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/35/168/17/-7
   Ve: 9.9 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Obese
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   68 K/uL
   9.5 g/dL
   99 mg/dL
   6.6 mg/dL
   17 mEq/L
   4.5 mEq/L
   87 mg/dL
   104 mEq/L
   135 mEq/L
   28.0 %
   18.4 K/uL
        [image002.jpg]
                             [**2124-12-11**]  07:47 PM
                             [**2124-12-11**]  09:24 PM
                            [**2124-12-12**]  06:01 AM
                            [**2124-12-12**]  11:12 AM
                            [**2124-12-13**]  05:19 AM
                            [**2124-12-13**]  05:24 AM
                            [**2124-12-13**]  06:33 AM
                            [**2124-12-13**]  05:24 PM
                            [**2124-12-14**]  04:06 AM
                            [**2124-12-14**]  04:22 AM
   WBC
   12.4
   19.6
   18.4
   Hct
   27.3
   28.1
   28.0
   Plt
   90
   105
   68
   Cr
   6.1
   6.2
   6.6
   TCO2
   21
   21
   19
   20
   20
   19
   19
   Glucose
   97
   97
   99
   Other labs: PT / PTT / INR:19.8/42.1/1.8, CK / CKMB / Troponin-T:225//,
   ALT / AST:32/91, Alk Phos / T Bili:66/8.0, Amylase / Lipase:/51,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:7.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.6 g/dL,
   LDH:443 IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy. Now with multifocal PNA.
   # Respiratory Distress:  Previously attributed to fluid overload in the
   setting of anuria [**3-6**] hepatorenal syndrome. Based on recent CT torso,
   seems to have developed a multifocal HAP.  Currently intubated [**3-6**]
   respiratory failure from fluid overload and PNA.
   -- Covg for HAP day 6 : vanco, Levo, cefepime,
   -- PEEP decreased from 14 to 10.  Then increased to 15 which seemsto be
   necessary given fluid overload and body habitus
   -- glucan, galactomannam, fungal cxs sent
   # Enterococcal UTI: HAP covg will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy, but now unable to assess [**3-6**]
   lingering effects of sedation
   --continue lactulose, rifamixin
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.
   Removed 6L of fluid yesterday, plan for 6 more liters today.
   --discontinued midodrine, octreotide
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD TODAY; f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving:  [**3-6**]
   acutely decompensated alcoholic cirrhosis
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   -- lactulose, rifamixin
   --f/u hepatology recs
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 3
   days ago..  HCT stable. No plan for scope currently
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: [**Hospital1 1506**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-14**] 01:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Thrombocytopenia: gradual decline since arrival from 250, but acute
   drop from 110 to 65, largest percentage drop since arrival. Has heparin
   dependent lines in place.
   - smear to assess for clumping
   - HIT Ab
   ------ Protected Section Addendum Entered By:[**Name (NI) 11340**] [**Name8 (MD) 9558**], MD
   on:[**2124-12-14**] 17:32 ------

2124-12-15 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vanco Level 26 so dose was held.
   +HIT ab.  Heparin SQ, heparin flushes were discontinued.  HD line being
   flushed with Citrate.
   Hypertensive, 10mg IV Hydralazine given with good effect.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-12**] 04:07 PM
   Vancomycin - [**2124-12-12**] 06:28 PM
   Levofloxacin - [**2124-12-13**] 02:00 PM
   Cefipime - [**2124-12-13**] 04:53 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-14**] 09:00 PM
   Hydralazine - [**2124-12-15**] 01:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-15**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 85 (62 - 85) bpm
   BP: 153/57(81) {127/42(62) - 181/66(93)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.3 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    995 mL
                                                                    386 mL
   PO:
             TF:
                                                                    585 mL
                                                                    254 mL
   IVF:
                                                                    250 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  6,525 mL
                                                                    910 mL
   Urine:
                                                                     25 mL
                                                                     10 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -5,530 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/34/135/22/-1
   Ve: 12.7 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   9.8 g/dL
   99 mg/dL
   6.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   74 mg/dL
   101 mEq/L
   136 mEq/L
   28.1 %
   21.5 K/uL
        [image002.jpg]
                            [**2124-12-12**]  11:12 AM
                            [**2124-12-13**]  05:19 AM
                            [**2124-12-13**]  05:24 AM
                            [**2124-12-13**]  06:33 AM
                            [**2124-12-13**]  05:24 PM
                            [**2124-12-14**]  04:06 AM
                            [**2124-12-14**]  04:22 AM
                            [**2124-12-14**]  08:58 AM
                            [**2124-12-15**]  04:27 AM
                            [**2124-12-15**]  05:00 AM
   WBC
   19.6
   18.4
   20.4
   21.5
   Hct
   28.1
   28.0
   30.4
   28.1
   Plt
   105
   68
   76
   70
   Cr
   6.2
   6.6
   6.0
   TCO2
   19
   20
   20
   19
   19
   22
   Glucose
   97
   99
   99
   Other labs: PT / PTT / INR:19.8/42.7/1.8, CK / CKMB / Troponin-T:225//,
   ALT / AST:84/230, Alk Phos / T Bili:87/8.4, Amylase / Lipase:/51,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:7.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.6 g/dL,
   LDH:443 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy. Now with multifocal PNA.
   # PNA, VENT:  Initially attributed to fluid overload in the setting of
   anuria [**3-6**] hepatorenal syndrome. Based on recent CT torso, seems to
   have developed a multifocal HAP.  Currently intubated [**3-6**] respiratory
   failure from fluid overload and PNA.
   -- Covg for HAP day 7 : vanco, Levo, cefepime,
   -- PEEP maintained at 15 and pt switched to PSV with PS=5
   -- glucan, galactomannam, fungal cxs sent
   # Worsening leukocytosis: Unlikely that pt has a resistant organism in
   lung as covg is broad and resp status stable (possibly even improving),
   Abd CT unremarkable and abd exam largely unchnged. UTI covered by HAP
   Abx. No reason to suspect CNS source.  Fungal markers and cultures
   pending.  Will rule out cdiff again.
   # HIT: Ab positive. Serotonin release assay ordred.  There are
   significant factors arguing again argatroban tx in this pt.  Will c/s
   heme regarding risk/benefits of anticoagulation.  Plts trending up off
   heparin.
   # Enterococcal UTI: HAP covg will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy, but now unable to assess [**3-6**]
   lingering effects of sedation
   --continue lactulose, rifamixin
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.
   Removed 6L of fluid yesterday, plan for 3 more liters today as BP
   borderline.
   --discontinued midodrine, octreotide
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD TODAY; f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving:  [**3-6**]
   acutely decompensated alcoholic cirrhosis
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   -- lactulose, rifamixin
   --f/u hepatology recs
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 3
   days ago..  HCT stable. No plan for scope currently
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-14**] 01:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-15 10:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - HIT positive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-12**] 04:07 PM
   Vancomycin - [**2124-12-12**] 06:28 PM
   Cefipime - [**2124-12-13**] 04:53 PM
   Levofloxacin - [**2124-12-15**] 10:10 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2124-12-15**] 01:25 AM
   Pantoprazole (Protonix) - [**2124-12-15**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-15**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 95 (62 - 95) bpm
   BP: 119/45(62) {119/45(62) - 181/66(93)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                    995 mL
                                                                    765 mL
   PO:
             TF:
                                                                    585 mL
                                                                    365 mL
   IVF:
                                                                    250 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  6,525 mL
                                                                    910 mL
   Urine:
                                                                     25 mL
                                                                     10 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -5,530 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 75.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.41/34/135/22/-1
   Ve: 11.6 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   70 K/uL
   99 mg/dL
   6.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   74 mg/dL
   101 mEq/L
   136 mEq/L
   28.1 %
   21.5 K/uL
        [image002.jpg]
                            [**2124-12-12**]  11:12 AM
                            [**2124-12-13**]  05:19 AM
                            [**2124-12-13**]  05:24 AM
                            [**2124-12-13**]  06:33 AM
                            [**2124-12-13**]  05:24 PM
                            [**2124-12-14**]  04:06 AM
                            [**2124-12-14**]  04:22 AM
                            [**2124-12-14**]  08:58 AM
                            [**2124-12-15**]  04:27 AM
                            [**2124-12-15**]  05:00 AM
   WBC
   19.6
   18.4
   20.4
   21.5
   Hct
   28.1
   28.0
   30.4
   28.1
   Plt
   105
   68
   76
   70
   Cr
   6.2
   6.6
   6.0
   TCO2
   19
   20
   20
   19
   19
   22
   Glucose
   97
   99
   99
   Other labs: PT / PTT / INR:19.8/42.7/1.8, CK / CKMB / Troponin-T:225//,
   ALT / AST:84/230, Alk Phos / T Bili:87/8.4, Amylase / Lipase:/51,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:7.0
   %, Fibrinogen:160 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.6 g/dL,
   LDH:443 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:5.7 mg/dL
   Imaging: CXR - Different penetration.  Pulmonary edema.
   Microbiology: BAL culture with yeast.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Intubated.
   - Continue vanc/levo/cefepime
   - Wean FiO2 as tolerated, would not ween PEEP any further as likely
   needs high PEEP to offset chest wall edema and obesity
   - Bronchodilators
   #AKD with possible hepatorenal syndrome or ATI:
   - Discuss d/c
ing octreotide and midodrine per renal.
   - Continue daily HD to remove large amount of fluid
   - Daily bladder pressure
   # Hypotension / Elevated WBC count/ Hypothermia: Extensive infectious
   work-up with only evidence of possible PNA that is being adequately
   covered.
   - Continue antibiotics
   - Hold anti-HTN
   - F/u fungal cultures, check c. diff
   - Will perform BAL today to assess secretions RLL
   - Cortisol is inappropriately low for amount of stress but still loathe
   to start steroids until fungal cultures are clear and no e/o
   enterocolitis
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.
   - Will follow
   - Continue lactulose
   - Thiamine/Folate
   # Coffee ground emesis:
   - Continue PO PPI [**Hospital1 7**]
   - Daily Hct
   - EGD deferred to unspecified future date
   #HypoNa: S/p tolvaptan.  Now stable, check qday.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-14**] 01:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2124-12-16 07:37:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, decomp cirrhosis
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2124-12-15**] 02:30 PM
   BLE
   - Heme consult for HIT Above
 no argatroban, check Serotonin release
   assay
   - Continued on HD
   - Worsening rash
   Allergies:
   Heparin Agents
   Thrombocytopenia
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 10:10 AM
   Cefipime - [**2124-12-15**] 03:00 PM
   Vancomycin - [**2124-12-15**] 04:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-15**] 09:00 PM
   Other medications:
   Rifaximin, Levofloxacin, Cefepime, Vancomycin, Albuterol, Atrovent,
   Lactulose
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-16**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (81 - 99) bpm
   BP: 148/55(80) {119/45(62) - 170/63(90)} mmHg
   RR: 24 (20 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 150 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,777 mL
                                                                    341 mL
   PO:
             TF:
                                                                    841 mL
                                                                    265 mL
   IVF:
                                                                    610 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                      0 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                   -343 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 553 (357 - 675) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.47/39/99.[**Numeric Identifier 508**]/27/4
   Ve: 13.1 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Obese, NAD
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles
   at bases)
   Abdominal: Soft, mild mid-abdominal tenderness and fullness, Bowel
   sounds present
   Skin:  [**Doctor Last Name 840**], reticular rash over back and abdomen
   Neurologic: A&Ox3, follows commands, interactive
   Labs / Radiology
   9.6 g/dL
   48 K/uL
   106 mg/dL
   5.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   56 mg/dL
   96 mEq/L
   134 mEq/L
   28.0 %
   28.1 K/uL
        [image002.jpg]
                            [**2124-12-13**]  05:24 AM
                            [**2124-12-13**]  06:33 AM
                            [**2124-12-13**]  05:24 PM
                            [**2124-12-14**]  04:06 AM
                            [**2124-12-14**]  04:22 AM
                            [**2124-12-14**]  08:58 AM
                            [**2124-12-15**]  04:27 AM
                            [**2124-12-15**]  05:00 AM
                            [**2124-12-15**]  12:27 PM
                            [**2124-12-16**]  05:13 AM
   WBC
   18.4
   20.4
   21.5
   28.1
   Hct
   28.0
   30.4
   28.1
   28.0
   Plt
   68
   76
   70
   48
   Cr
   6.6
   6.0
   5.1
   TCO2
   20
   20
   19
   19
   22
   29
   Glucose
   99
   99
   106
   Other labs: PT / PTT / INR:23.3/43.1/2.2, CK / CKMB / Troponin-T:225//,
   ALT / AST:347/823, Alk Phos / T Bili:124/9.4, Amylase / Lipase:/51,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:7.0
   %, Fibrinogen:179 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.6 g/dL,
   LDH:757 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Galactomannan - negative
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome.
   # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Intubated.
   - Completed 8 days of Vanco/Levo/Cefepime
   - Wean to PSV 5/15, likely needs high PEEP to offset chest wall edema
   and obesity
 doing well, will try on PSV 5/10
   - Bronchodilators
   # Leukocytosis: Consider on-going infection, drug reaction (in light of
   rash).  Last diff w/elevated Eosinophils.
   - Add on differential to AM CBC, re-send UA and UCx
   - Continue vanco for 14 days for enterococcus
   - Stop cefepime, levo
   - ABD US for hepatic abscess, ascites, portal vein flow
   #AKD with possible hepatorenal syndrome or ATI:
   - Continue daily HD to remove large amount of fluid
   - Daily bladder pressure
   # Hypotension / Hypothermia: Extensive infectious work-up with only
   evidence of possible PNA that is being adequately covered.
   - Continue antibiotics
   - Hold anti-HTN
   - F/u fungal cultures, BAL, c. diff
   - Cortisol is inappropriately low for amount of stress but not start
   steroids until fungal cultures are clear and no e/o enterocolitis
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.  Now has
   worsening transaminitis.  Concern for portal vein clot, obstruction
   - Abd US for obstruction, portal vein clot
   - Continue lactulose, rifaximin
   - Thiamine/Folate
   # Coffee ground emesis:
   - Continue PO PPI [**Hospital1 7**]
   - Daily Hct
   - EGD deferred to unspecified future date
   - Maintain up to date type and screen
    # Thrombocytopenia/HIT+: Platelets down this AM.
   - Re-discuss anticoag with heme, also discuss transfusion parameters
   - Recheck Plt count in PM
   - HD all done with citrate
   #HypoNa: S/p tolvaptan.  Now stable, check qday.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-15**] 11:47 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: PPI
   VAP: Elevate head of bead
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now
   Total time spent: 30 min

2124-12-16 08:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2124-12-15**] 02:30 PM
   BLE
   no argatroban per heme
   AC switched to PSV 5/15
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 10:10 AM
   Cefipime - [**2124-12-15**] 03:00 PM
   Vancomycin - [**2124-12-15**] 04:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-15**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-16**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (81 - 99) bpm
   BP: 148/55(80) {119/45(62) - 170/63(90)} mmHg
   RR: 24 (20 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 150 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,777 mL
                                                                    371 mL
   PO:
             TF:
                                                                    841 mL
                                                                    289 mL
   IVF:
                                                                    610 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                      0 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                   -343 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 453 (357 - 675) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.47/39/99.[**Numeric Identifier 508**]/27/4
   Ve: 14.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: TO DEEP PALPATION IN MID EPIGASTRIUM
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   48 K/uL
   9.6 g/dL
   106 mg/dL
   5.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   56 mg/dL
   96 mEq/L
   134 mEq/L
   28.0 %
   28.1 K/uL
        [image002.jpg]
                            [**2124-12-13**]  05:24 AM
                            [**2124-12-13**]  06:33 AM
                            [**2124-12-13**]  05:24 PM
                            [**2124-12-14**]  04:06 AM
                            [**2124-12-14**]  04:22 AM
                            [**2124-12-14**]  08:58 AM
                            [**2124-12-15**]  04:27 AM
                            [**2124-12-15**]  05:00 AM
                            [**2124-12-15**]  12:27 PM
                            [**2124-12-16**]  05:13 AM
   WBC
   18.4
   20.4
   21.5
   28.1
   Hct
   28.0
   30.4
   28.1
   28.0
   Plt
   68
   76
   70
   48
   Cr
   6.6
   6.0
   5.1
   TCO2
   20
   20
   19
   19
   22
   29
   Glucose
   99
   99
   106
   Other labs: PT / PTT / INR:23.3/43.1/2.2, CK / CKMB / Troponin-T:225//,
   ALT / AST:347/823, Alk Phos / T Bili:124/9.4, Amylase / Lipase:/51,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:7.0
   %, Fibrinogen:179 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.6 g/dL,
   LDH:757 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now with rapidly rising
   transaminitis and leukocytosis.
   # PNA, VENT:  Initially attributed to fluid overload in the setting of
   anuria [**3-6**] hepatorenal syndrome. Based on recent CT torso, seems to
   have developed multifocal HAP.  Currently intubated [**3-6**] respiratory
   failure from fluid overload and PNA.
   -- Covg for HAP day 8 /8: vanco, Levo, cefepime COMPLETE
   -- PEEP at 15 and PS at 5; will taper to PEEP 10, PS 5
   -- Expect that he will now tolerate lower PEEPS as signjifcant diuresis
   has been achieved since last attempt
   # Worsening leukocytosis: Unlikely that pt has a resistant organism in
   lung as covg is broad and resp status stable (possibly even improving),
   Abd CT unremarkable and abd exam largely unchnged. UTI covered by HAP
   Abx. No reason to suspect CNS source.
   --Glucan NEEDS TO BE RESENT, galactomannam negative, fungal cxs
   pending.
   --Cdiff ruled out again.
   --Per discussion with gi, WILL OBTAIN LIVER US to assess for
   cholestatic cause and also intrahepatic abcess.
   --another possibility is that this is all related to drug [**Doctor Last Name **], drug
   [**Last Name (LF) 11518**], [**First Name3 (LF) **] send diff to look for serum EOS
   # HIT: Ab positive. Serotonin release assay ordred.  There are
   significant factors arguing again argatroban tx in this pt.  Appreciate
   continued heme input.
   # Enterococcal UTI: HAP covg (vanco) will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy
   --continue lactulose, rifamixin, HD
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.
   Removed 3L of fluid yesterday, plan for [**6-7**] more liters today as BP
   borderline.
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD TODAY; f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving:  [**3-6**]
   acutely decompensated alcoholic cirrhosis. Lfts HAD IMPROVED AND NOW
   ARE RAPIDLY RISING.  There is a concern for intrahepatic abcess,
   biliary obstruction, and HEPATIC VEIN THROMBOSIS as pt presumably with
   coagulopathic potential of HIT.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   -- lactulose, rifamixin
   --f/u hepatology recs
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 3
   days ago..  HCT stable. No plan for scope currently
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-15**] 11:47 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: PNEMO
   Stress ulcer:PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2124-12-17 06:29:00 Physician Resident Progress Note
Chief Complaint: fever, altered mental status
   24 Hour Events:
 ULTRASOUND - At [**2124-12-16**] 02:03 PM
 URINE CULTURE - At [**2124-12-16**] 03:43 PM
   Elevated LFTs
   Liver US negative for abscess and portal vein thrombosis
   Weaned abx down to Vanc only (completed course of levo and cefepime)
   WBC 28-->36--> 25
   pancultured
   Fever to 101.5, but normotensive, clinically better
   R forearm line erythematous
   Serotonin release assay pending
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 10:10 AM
   Cefipime - [**2124-12-15**] 03:00 PM
   Vancomycin - [**2124-12-16**] 12:56 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-17**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 110 (85 - 110) bpm
   BP: 129/53(76) {101/42(57) - 170/65(93)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 148 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,046 mL
                                                                    129 mL
   PO:
             TF:
                                                                    605 mL
                                                                     64 mL
   IVF:
                                                                    440 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  4,800 mL
                                                                    700 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,754 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (435 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/45/125/28/5
   Ve: 11 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   9.5 g/dL
   90 mg/dL
   4.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   50 mg/dL
   99 mEq/L
   139 mEq/L
   28.0 %
   25.8 K/uL
        [image002.jpg]
                            [**2124-12-14**]  04:22 AM
                            [**2124-12-14**]  08:58 AM
                            [**2124-12-15**]  04:27 AM
                            [**2124-12-15**]  05:00 AM
                            [**2124-12-15**]  12:27 PM
                            [**2124-12-16**]  05:13 AM
                            [**2124-12-16**]  11:33 AM
                            [**2124-12-16**]  03:40 PM
                            [**2124-12-16**]  03:56 PM
                            [**2124-12-17**]  04:21 AM
   WBC
   20.4
   21.5
   28.1
   36.4
   25.8
   Hct
   30.4
   28.1
   28.0
   29.0
   28.0
   Plt
   76
   70
   48
   45
   47
   Cr
   6.0
   5.1
   4.8
   TCO2
   19
   22
   29
   31
   31
   Glucose
   99
   106
   90
   Other labs: PT / PTT / INR:29.5/49.6/2.9, CK / CKMB / Troponin-T:225//,
   ALT / AST:[**Telephone/Fax (1) 11527**], Alk Phos / T Bili:151/9.8, Amylase / Lipase:/51,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:2.0
   %, Fibrinogen:179 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.6 g/dL,
   LDH:506 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.9 mg/dL
   Imaging: Abd US (wet read)
   Cirrhosis. Ascites. Gallbladder sludge and cholelithiasis. Reversed
   flow of
   the main, right and left portal vein, which are patent. Recanalized
   umbilical
   vein.
   Microbiology: [**12-16**] Blood cultures x2 pending
   [**12-16**] Urine culture pending
   [**12-15**] C diff negative
   Assessment and Plan
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now with rapidly rising
   transaminitis and leukocytosis.
   # PNA, VENT:  Initially attributed to fluid overload in the setting of
   anuria [**3-6**] hepatorenal syndrome. Based on recent CT torso, seems to
   have developed multifocal HAP.  Currently intubated [**3-6**] respiratory
   failure from fluid overload and PNA.
   -- Covg for HAP day 8 /8: vanco, Levo, cefepime COMPLETE
   -- PEEP at 15 and PS at 5; will taper to PEEP 10, PS 5
   -- Expect that he will now tolerate lower PEEPS as signjifcant diuresis
   has been achieved since last attempt
   # Worsening leukocytosis: Unlikely that pt has a resistant organism in
   lung as covg is broad and resp status stable (possibly even improving),
   Abd CT unremarkable and abd exam largely unchnged. UTI covered by HAP
   Abx. No reason to suspect CNS source.
   --Glucan NEEDS TO BE RESENT, galactomannam negative, fungal cxs
   pending.
   --Cdiff ruled out again.
   --Per discussion with gi, WILL OBTAIN LIVER US to assess for
   cholestatic cause and also intrahepatic abcess.
   --another possibility is that this is all related to drug [**Doctor Last Name **], drug
   [**Last Name (LF) 11518**], [**First Name3 (LF) **] send diff to look for serum EOS
   # HIT: Ab positive. Serotonin release assay ordred.  There are
   significant factors arguing again argatroban tx in this pt.  Appreciate
   continued heme input.
   # Enterococcal UTI: HAP covg (vanco) will suffice
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy
   --continue lactulose, rifamixin, HD
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.
   Removed 3L of fluid yesterday, plan for [**6-7**] more liters today as BP
   borderline.
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- cont HD TODAY; f/u renal recs
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving:  [**3-6**]
   acutely decompensated alcoholic cirrhosis. Lfts HAD IMPROVED AND NOW
   ARE RAPIDLY RISING.  There is a concern for intrahepatic abcess,
   biliary obstruction, and HEPATIC VEIN THROMBOSIS as pt presumably with
   coagulopathic potential of HIT.
   -- hepatitis serologies(-), and [**Doctor First Name **] (-), AMA(-), [**Last Name (un) 4195**](-)
   -- lactulose, rifamixin
   --f/u hepatology recs
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis 3
   days ago..  HCT stable. No plan for scope currently
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-16**] 09:41 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-17 08:08:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 11532**] for key portions of the services provided. I agree with
   housestaff note above, including the assessment and plan. I would
   emphasize and add the following points:
   24 Hour Events:
 ULTRASOUND given rising LFTs, unremarkable
 Pan cultured
   - Dialyzed
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 10:10 AM
   Cefipime - [**2124-12-15**] 03:00 PM
   Vancomycin - [**2124-12-16**] 12:56 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Folate, MVI, Rifaxamin, Albuterol, Ipratropium, Chlorhexidine,
   lactulose, hydrocort topical, Sevelamer
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-17**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 110 (85 - 110) bpm
   BP: 129/53(76) {101/42(57) - 159/65(90)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 148 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,046 mL
                                                                    162 mL
   PO:
             TF:
                                                                    605 mL
                                                                     81 mL
   IVF:
                                                                    440 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  4,800 mL
                                                                    700 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,754 mL
                                                                   -538 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (435 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/45/125/28/5
   Ve: 11 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases bilat)
   Abdominal: Soft, Bowel sounds present, Tender: Mid-abdominal
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   47 K/uL
   90 mg/dL
   4.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   50 mg/dL
   99 mEq/L
   139 mEq/L
   28.0 %
   25.8 K/uL
        [image002.jpg]
                            [**2124-12-14**]  04:22 AM
                            [**2124-12-14**]  08:58 AM
                            [**2124-12-15**]  04:27 AM
                            [**2124-12-15**]  05:00 AM
                            [**2124-12-15**]  12:27 PM
                            [**2124-12-16**]  05:13 AM
                            [**2124-12-16**]  11:33 AM
                            [**2124-12-16**]  03:40 PM
                            [**2124-12-16**]  03:56 PM
                            [**2124-12-17**]  04:21 AM
   WBC
   20.4
   21.5
   28.1
   36.4
   25.8
   Hct
   30.4
   28.1
   28.0
   29.0
   28.0
   Plt
   76
   70
   48
   45
   47
   Cr
   6.0
   5.1
   4.8
   TCO2
   19
   22
   29
   31
   31
   Glucose
   99
   106
   90
   Other labs: PT / PTT / INR:29.5/49.6/2.9, CK / CKMB / Troponin-T:225//,
   ALT / AST:[**Telephone/Fax (1) 11527**], Alk Phos / T Bili:151/9.8, Amylase / Lipase:/51,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:2.0
   %, Fibrinogen:179 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.6 g/dL,
   LDH:506 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.9 mg/dL
   Blood Cx
 NGTD
   BAL
 Yeast
   Stool Cx
 NGTD
   C diff negative
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, acute renal failure possibly [**3-6**] hepatorenal
   syndrome, now with leukocytosis and worsening transaminitis.
   # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Intubated.
   - Completed 8 days of Vanco/Levo/Cefepime
   - Did well on [**6-11**], will try [**6-6**] today, aim for extubation after HD
   tomorrow if does well
   - Bronchodilators
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.  Now has
   worsening transaminitis.
   - Abd US negative for obstruction, portal vein clot.  D/w hepatology
   who is still suspicious of vascular process; will d/w radiology whether
   further studies will be helpful (see below).  Ddx includes drug / infx
   related
 cefepime recently d/c
 see below.
   - Continue lactulose, rifaxamin, MS improved
   - Thiamine/Folate
   # Leukocytosis: Consider on-going infection, drug reaction (in light of
   rash).  Last diff w/elevated Eosinophils.
   - UA w/WBCs, will restart GNR coverage with Zosyn, change foley, follow
   up UCx
   - Continue vanco for 14 days for enterococcus
   - Cefepime, levo stopped [**2124-12-16**]
   - ABD US negative for hepatic abscess, ascites, portal vein obstruction
   - Rechecking glucan
   - Will discuss w/radiology re next best imaging modality given
   inability to give contrast (MRI vs CT scan)
   #AKD with possible hepatorenal syndrome or ATI:
   - Getting HD holiday today
   - Daily bladder pressure
   # Hypotension / Hypothermia: Extensive infectious work-up with only
   evidence of possible PNA that is being adequately covered.
   - Continue antibiotics
   - Hold anti-HTN
   - F/u fungal cultures, BAL, c. diff
   - Cortisol is inappropriately low for amount of stress but not start
   steroids until fungal cultures are clear and no e/o enterocolitis
   # Coffee ground emesis:
   - Continue PO PPI [**Hospital1 7**]
   - Daily Hct
   - EGD deferred to unspecified future date
   - Maintain up to date type and screen
    # Thrombocytopenia/HIT+: Platelets down this AM.
   - Re-discuss anticoag with heme, also discuss transfusion parameters
   - Recheck Plt count in PM
   - HD all done with citrate
   #HypoNa: S/p tolvaptan.  Now stable, check qday.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2124-12-16**] 09:41 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: PPI
   VAP: HOB to 30, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now
   Pt is critically ill.
   Total time spent: 30min

2124-12-18 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2124-12-17**] 05:30 PM
   New onset Afib
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2124-12-18**] 05:19 AM
   patient went into Afib overnight.  Received Lopressor 5mg IV x 2 with
   no response.  Received Dilt 20mg IV x 1 with conversion to sinus
   rhythm.  Started on Dilt PO QID.  Cardiac Enzymes done, CK 31, Trop
   0.25
   LFTs continue to rise as of yesterday morning, now decreasing.
   hepatology recommended CT vs MRI, however patient unable to obtain
   contrast [**3-6**] renal failure.  Radiology was called and stated CT or MRI
   without contrast would not be useful to look for clot.  U/S was also of
   good quality and did not show venous or arterial thrombus.
   Self Extubated at 5am.  Tolerating face vent.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 10:10 AM
   Cefipime - [**2124-12-15**] 03:00 PM
   Vancomycin - [**2124-12-16**] 12:56 PM
   Piperacillin - [**2124-12-18**] 04:55 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2124-12-17**] 05:25 PM
   Pantoprazole (Protonix) - [**2124-12-17**] 09:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-18**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 78 (70 - 132) bpm
   BP: 142/48(72) {85/43(63) - 148/74(92)} mmHg
   RR: 19 (17 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 148 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,050 mL
                                                                    345 mL
   PO:
             TF:
                                                                    640 mL
                                                                    165 mL
   IVF:
                                                                    411 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    900 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                   -555 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent, Endotracheal tube
   Ventilator mode: Standby
   Vt (Spontaneous): 416 (416 - 575) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.37/47/75/23/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   9.9 g/dL
   112 mg/dL
   6.4 mg/dL
   23 mEq/L
   3.3 mEq/L
   83 mg/dL
   99 mEq/L
   138 mEq/L
   30.1 %
   25.3 K/uL
        [image002.jpg]
                            [**2124-12-16**]  05:13 AM
                            [**2124-12-16**]  11:33 AM
                            [**2124-12-16**]  03:40 PM
                            [**2124-12-16**]  03:56 PM
                            [**2124-12-17**]  04:21 AM
                            [**2124-12-17**]  01:54 PM
                            [**2124-12-17**]  06:56 PM
                            [**2124-12-17**]  07:00 PM
                            [**2124-12-18**]  04:24 AM
                            [**2124-12-18**]  05:11 AM
   WBC
   28.1
   36.4
   25.8
   25.3
   Hct
   28.0
   29.0
   28.0
   30.1
   Plt
   48
   45
   47
   64
   Cr
   5.1
   4.8
   6.4
   TropT
   0.25
   0.23
   TCO2
   31
   31
   30
   28
   28
   Glucose
   106
   90
   112
   Other labs: PT / PTT / INR:31.8/54.5/3.2, CK / CKMB /
   Troponin-T:31//0.23, ALT / AST:455/579, Alk Phos / T Bili:160/11.0,
   Amylase / Lipase:/51, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:3.6 g/dL, LDH:449 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:6.8
   mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now with rapidly rising
   transaminitis and leukocytosis.
   # Worsening leukocytosis: Unclear source at this time.  Patient has now
   completed course for HAP.  Urine Cx on [**12-4**] grew Vano sensitive
   Enterococcus, and he has been on Vancomycin since that time.  UA
   yesterday with +WBC and bacteria but patient also anuric so unclear if
   this represents a real infection.  Will await Ucx results and start
   Zosyn.  RUQ U/S done yesterday showed no abscess and no biliary
   process.  Will obtain CT vs MRI abdomen today for better evaluation
   --Glucan resent, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out [**12-15**]
   --Per discussion with gi, will obtain imaging of liver to assess for
   clot vs infection
   -- cont Vanco, add Zosyn for UTI
   # PNA, VENT:  Initially attributed to fluid overload in the setting of
   anuria [**3-6**] hepatorenal syndrome. CT Torso then confirmed multi lobar
   PNA.  Has now completed course for HAP.  Currently intubated [**3-6**]
   respiratory failure from fluid overload and PNA.
   -- PEEP at 10 and PS at 5; will taper to PEEP 5, PS 5
   -- Plan for possible extubation tomorrow after dialysis if tolerates
   SBT
   # HIT: Ab positive. Serotonin release assay ordred.  Appreciate
   continued heme input.
   - if scan today shows +thrombosis will start argatroban
   # Enterococcal UTI: has been on Vancomycin
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy
   --continue lactulose, rifamixin, HD
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.
   Removed 4L of fluid yesterday.  No HD today.
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   -- HD holiday today, will likely restart HD tomorrow
   # Transminitis/ elevated bili/ synthetic dysfunction: resolving:  LFT
   now continue to rise.  Unclear cause at this time.  RUQ U/S yesterday
   showed no signs of obstruction, Portal Veins seem to be patent.  Per
   GI, will contact radiology to discuss options for Liver scan to assess
   for clot.  MR [**First Name (Titles) 913**] [**Last Name (Titles) **] scan
   -- lactulose, rifamixin
   --f/u hepatology recs
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   last week..  HCT stable. No plan for scope currently
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-18 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Self extubated this am - doing well on face tent
   - Afib with RVR with desaturation and hypotension
   - Concern for hepatic vein clot given HIT and rising LFTs - U/S
   negative and good quality as confirmed by radiology
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 10:10 AM
   Cefipime - [**2124-12-15**] 03:00 PM
   Vancomycin - [**2124-12-16**] 12:56 PM
   Piperacillin - [**2124-12-18**] 04:55 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2124-12-17**] 05:25 PM
   Pantoprazole (Protonix) - [**2124-12-17**] 09:05 PM
   Diltiazem - [**2124-12-18**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-18**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 106 (70 - 132) bpm
   BP: 104/43(62) {97/39(55) - 154/66(92)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 143.6 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,050 mL
                                                                    423 mL
   PO:
             TF:
                                                                    640 mL
                                                                    165 mL
   IVF:
                                                                    411 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    900 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 416 (416 - 575) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.39/44/105/23/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 105
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Chest: Diminished, Coarse ronchi
    Cardaic: RRR, S1/S2
   Abdomen: Distended, non tender, +BS
   Extremeties: 2+ bilateral
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Following commands
   Labs / Radiology
   9.9 g/dL
   64 K/uL
   112 mg/dL
   6.4 mg/dL
   23 mEq/L
   3.3 mEq/L
   83 mg/dL
   99 mEq/L
   138 mEq/L
   30.1 %
   25.3 K/uL
        [image002.jpg]
                            [**2124-12-16**]  11:33 AM
                            [**2124-12-16**]  03:40 PM
                            [**2124-12-16**]  03:56 PM
                            [**2124-12-17**]  04:21 AM
                            [**2124-12-17**]  01:54 PM
                            [**2124-12-17**]  06:56 PM
                            [**2124-12-17**]  07:00 PM
                            [**2124-12-18**]  04:24 AM
                            [**2124-12-18**]  05:11 AM
                            [**2124-12-18**]  09:06 AM
   WBC
   36.4
   25.8
   25.3
   Hct
   29.0
   28.0
   30.1
   Plt
   45
   47
   64
   Cr
   4.8
   6.4
   TropT
   0.25
   0.23
   TCO2
   31
   31
   30
   28
   28
   28
   Glucose
   90
   112
   Other labs: PT / PTT / INR:31.8/54.5/3.2, CK / CKMB /
   Troponin-T:31//0.23, ALT / AST:455/579, Alk Phos / T Bili:160/11.0,
   Amylase / Lipase:/51, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:3.6 g/dL, LDH:449 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:6.8
   mg/dL
   Fluid analysis / Other labs: Serotonin release assay pending.
   Imaging: CXR - Vascular prominence, LLL atelectasis and possible
   effusion.
   Microbiology: No new data.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, acute renal failure possibly [**3-6**] hepatorenal
   syndrome, now with leukocytosis and worsening transaminitis over
   weekend.
    # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Self extubated this am on 100% FM + 6 L
   - Restart Zosyn/Cipro for VAP (still on vanc)
   - Will see how his respiratory status does after HD today
 may need
   reintubation (cannot tolerate BiPap due to nasal necrosis)
   - If reintubated, consider bronch to assess LLL and clear out
   secretions
   - Bronchodilators
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.  Had worsening
   transaminitis over weekend, but now stable.
   - Abd US negative for obstruction, portal vein clot.
   - Continue lactulose, rifaxamin, when able to take PO
   - Thiamine/Folate
   # Leukocytosis: Consider on-going infection, drug reaction (in light of
   rash).  Last diff w/elevated Eosinophils.  C diff negative x 2.
   - Zosyn for positive U/A
   - Continue Vanco for enterococcus
   - Add cipro to zosyn/vanc for presumed VAP (LLL)
   - Cefepime, levo stopped [**2124-12-16**]
   - ABD US negative for hepatic abscess, ascites, portal vein obstruction
   - F/U glucan, CMV
   #AKD with possible hepatorenal syndrome or ATI: on HD.
   - Getting HD today
   - Daily bladder pressure
    # Thrombocytopenia/HIT+:
   - No anticoagulation at this time
   - HD all done with citrate
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-12-19 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-12-18**] 11:37 PM
   - US guided paracentesis and transjugular liver biopsy pending
   - renal: no plans for HD on [**12-19**], will likely need permanent tunneled
   line
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-12-18**] 11:03 AM
   Vancomycin - [**2124-12-18**] 01:04 PM
   Piperacillin - [**2124-12-19**] 04:20 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2124-12-18**] 08:25 AM
   Pantoprazole (Protonix) - [**2124-12-18**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-19**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 69 (61 - 127) bpm
   BP: 119/51(69) {97/39(55) - 154/132(133)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 143.6 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,438 mL
                                                                    205 mL
   PO:
             TF:
                                                                    165 mL
   IVF:
                                                                  1,173 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    538 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.41/45/86/29/2
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: epigastrium mildly ttp
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   47 K/uL
   9.7 g/dL
   94 mg/dL
   4.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   59 mg/dL
   102 mEq/L
   141 mEq/L
   29.1 %
   22.5 K/uL
        [image002.jpg]
                            [**2124-12-17**]  04:21 AM
                            [**2124-12-17**]  01:54 PM
                            [**2124-12-17**]  06:56 PM
                            [**2124-12-17**]  07:00 PM
                            [**2124-12-18**]  04:24 AM
                            [**2124-12-18**]  05:11 AM
                            [**2124-12-18**]  09:06 AM
                            [**2124-12-18**]  05:47 PM
                            [**2124-12-19**]  04:21 AM
                            [**2124-12-19**]  04:31 AM
   WBC
   25.8
   25.3
   22.5
   Hct
   28.0
   30.1
   29.1
   Plt
   47
   64
   47
   Cr
   4.8
   6.4
   4.4
   TropT
   0.25
   0.23
   TCO2
   30
   28
   28
   28
   29
   30
   Glucose
   90
   112
   94
   Other labs: PT / PTT / INR:33.4/59.9/3.4, CK / CKMB /
   Troponin-T:31//0.23, ALT / AST:461/859, Alk Phos / T Bili:156/11.9,
   Amylase / Lipase:/51, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.6 g/dL, LDH:449 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now S/P SELF-EXTUBATION and
   with rising transaminitis and leukocytosis.
   # Worsening leukocytosis: Unclear source at this time.  Patient has now
   completed course for HAP.  Urine Cx on [**12-4**] grew Vano sensitive
   Enterococcus, and he has been on Vancomycin since that time.  UA
   yesterday with +WBC and bacteria but patient also anuric so unclear if
   this represents a real infection.  Will await Ucx results and start
   Zosyn.  RUQ U/S done yesterday showed no abscess and no biliary
   process.
   --Glucan resent, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out [**12-15**]
   -- given LLL collapse, thiws cannot be excluded as source of infxn. As
   had already been on Vanco/Zosyn for empiric UTI [**Last Name (LF) 11564**], [**First Name3 (LF) **] define today
   as D3 of HAP [**First Name3 (LF) 11564**] with vanco/zosyn; adding cipro for double gram
   negative [**First Name3 (LF) 11564**].
   # PNA, VENT:  Initially attributed to fluid overload in the setting of
   anuria [**3-6**] hepatorenal syndrome. CT Torso then confirmed multi lobar
   PNA.  Has now completed course for HAP; starting second HAP course as
   above. Self extubated this AM ans seems to be doing well
low threshold
   for re-intubation, not a candidate for NIPPV given nose injury.
   -- serial ABG today, plan to sit pt up s/p HD to improve oxygenation
   # HIT: Ab positive. Serotonin release assay ordred.  Appreciate
   continued heme input.
   - f/u heme recs
   # Enterococcal UTI: has been on Vancomycin
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  Improved
   significantly on current therapy
   --continue lactulose, rifamixin, HD
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.  Ran
   even today
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   # Transminitis/ elevated bili/ synthetic dysfunction: LFT had been
   improving and then spiked, now trending down again.  Unclear cause at
   this time.  RUQ U/S yesterday showed no signs of obstruction, Portal
   Veins seem to be patent.
   -- lactulose, rifamixin
   --f/u hepatology recs
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   last week..  HCT stable. No plan for scope currently
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-19 10:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - US guided paracentesis cannot be done as not enough fluid
   - No HD toay
   - Dilt gtt transitioned to lopressor overnight
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-12-18**] 11:03 AM
   Vancomycin - [**2124-12-18**] 01:04 PM
   Piperacillin - [**2124-12-19**] 04:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-19**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-19**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 73 (61 - 111) bpm
   BP: 104/47(65) {104/44(64) - 147/132(133)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 143.6 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,438 mL
                                                                    468 mL
   PO:
             TF:
                                                                    165 mL
   IVF:
                                                                  1,173 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    538 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.41/45/86/29/2
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   47 K/uL
   94 mg/dL
   4.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   59 mg/dL
   102 mEq/L
   141 mEq/L
   29.1 %
   22.5 K/uL
        [image002.jpg]
                            [**2124-12-17**]  04:21 AM
                            [**2124-12-17**]  01:54 PM
                            [**2124-12-17**]  06:56 PM
                            [**2124-12-17**]  07:00 PM
                            [**2124-12-18**]  04:24 AM
                            [**2124-12-18**]  05:11 AM
                            [**2124-12-18**]  09:06 AM
                            [**2124-12-18**]  05:47 PM
                            [**2124-12-19**]  04:21 AM
                            [**2124-12-19**]  04:31 AM
   WBC
   25.8
   25.3
   22.5
   Hct
   28.0
   30.1
   29.1
   Plt
   47
   64
   47
   Cr
   4.8
   6.4
   4.4
   TropT
   0.25
   0.23
   TCO2
   30
   28
   28
   28
   29
   30
   Glucose
   90
   112
   94
   Other labs: PT / PTT / INR:33.4/59.9/3.4, CK / CKMB /
   Troponin-T:31//0.23, ALT / AST:461/859, Alk Phos / T Bili:156/11.9,
   Amylase / Lipase:/51, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.6 g/dL, LDH:449 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.2
   mg/dL
   Imaging: CXR - Mild increased pulmonary edema.
   Microbiology: No new micro data.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, acute renal failure possibly [**3-6**] hepatorenal
   syndrome, now with leukocytosis and worsening transaminitis over
   weekend.
    # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Self extubated [**12-17**]; doing well on face tent.
   - On Vanc/Zosyn/Cipro for VAP
 Day [**3-12**]
   - OOB to chair
   - Bronchodilators
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.  Worsening
   transaminitis of unclear etiology
   - Abd US negative for obstruction, portal vein clot.  Not enough fluid
   to do paracentesis.
   - Transjugular liver biopsy today, may need intubation for the
   procedure if needs excessive amounts of sedation
   - F/U with hepatology
   - Continue lactulose and rifaxamin
   - Thiamine/Folate
   # Afib with RVR: Now in sinus rhythm
   - Continue lopressor
   - Consider dilt gtt if goes back into RVR
   # Leukocytosis: Consider on-going infection, drug reaction (in light of
   rash).  Last diff w/elevated Eosinophils.  C diff negative x 2.
   - Vanc/Zosyn/Cipro to cover enterococcus UTI, VAP, and SBP
   - Cefepime, levo stopped [**2124-12-16**]
   - ABD US negative for hepatic abscess, ascites, portal vein
   obstruction. Not enough fluid to tap.
   - F/U glucan, CMV
   #AKD with possible hepatorenal syndrome or ATI: on HD.
   - No HD today
   - Daily bladder pressure
   - IR will change HD line today, but cannot do tunneled line give
   coagulopathy
   # Thrombocytopenia/HIT+:
   - No anticoagulation at this time
   - HD all done with citrate
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2124-12-20 06:48:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   CXR:  In comparison with the recent prior study, there
   has been interval increase and interstitial opacities in the right
   lung, most
   likely representing worsening of the pulmonary edema. The retrocardiac
   opacity of the left lower lobe and a small left pleural effusion are
   unchanged
   since the prior study, this may represent atelectasis or pneumonia in
   the
   appropriate clinical setting.
   Did not get transjugular biopsy done  due to another emergent case.
   Will be added on for tomorrow.
   Updated family.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-18**] 01:04 PM
   Piperacillin - [**2124-12-19**] 04:20 AM
   Ciprofloxacin - [**2124-12-19**] 09:51 AM
   Meropenem - [**2124-12-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-20**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 69 (67 - 75) bpm
   BP: 113/50(67) {63/42(59) - 139/133(135)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.4 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,031 mL
                                                                    168 mL
   PO:
             TF:
   IVF:
                                                                    751 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                     31 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 90%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   9.7 g/dL
   94 mg/dL
   4.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   59 mg/dL
   102 mEq/L
   141 mEq/L
   29.1 %
   22.5 K/uL
        [image002.jpg]
                            [**2124-12-17**]  04:21 AM
                            [**2124-12-17**]  01:54 PM
                            [**2124-12-17**]  06:56 PM
                            [**2124-12-17**]  07:00 PM
                            [**2124-12-18**]  04:24 AM
                            [**2124-12-18**]  05:11 AM
                            [**2124-12-18**]  09:06 AM
                            [**2124-12-18**]  05:47 PM
                            [**2124-12-19**]  04:21 AM
                            [**2124-12-19**]  04:31 AM
   WBC
   25.8
   25.3
   22.5
   Hct
   28.0
   30.1
   29.1
   Plt
   47
   64
   47
   Cr
   4.8
   6.4
   4.4
   TropT
   0.25
   0.23
   TCO2
   30
   28
   28
   28
   29
   30
   Glucose
   90
   112
   94
   Other labs: PT / PTT / INR:33.4/59.9/3.4, CK / CKMB /
   Troponin-T:31//0.23, ALT / AST:461/859, Alk Phos / T Bili:156/11.9,
   Amylase / Lipase:/51, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.6 g/dL, LDH:449 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo Mwith HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now S/P SELF-EXTUBATION and
   with continuedtransaminitis and leukocytosis.
   # Leukocytosis: Unclear source at this time.  Patient has now completed
   course for HAP.  Urine Cx on [**12-4**] grew Vanco sensitive Enterococcus,
   and he has been on Vancomycin since that time.  UA 2 days ago with +WBC
   and bacteria but patient also anuric so unclear if this represents a
   real infection.  Zosyn was started.  CXR yesterday also concerning for
   LLL PNA so Cipro was added for HAP.
   -- cont Vanco/Zosyn/Cipro
   --Glucan resent, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out [**12-15**]
   # Transminitis/ elevated bili/ synthetic dysfunction: LFTs remain
   elevated.  Unclear cause at this time.  RUQ U/S showed no signs of
   obstruction, Portal Veins seem to be patent.   Plan for transjugular
   liver biopsy today
   -- lactulose, rifamixin
   --f/u hepatology recs
   --transjugular biopsy today
   # PNA, VENT:  Initially attributed to fluid overload in the setting of
   anuria [**3-6**] hepatorenal syndrome. CT Torso then confirmed multi lobar
   PNA.  Has now completed course for HAP; starting second HAP course as
   above. Self extubated yesterday morning but doing well on face tent.
   -- cont face tent
   -- sit up in chair today
   -- if becomes hypoxic would alert renal as no HD planned today and
   would [**Last Name (un) **] fluid removal
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   --no HD planned for today, will resume tomorrow
   # HIT: Ab positive. Serotonin release assay ordred.  Appreciate
   continued heme input.  No argatroban for now.  Concern was for hepatic
   ischemia [**3-6**] clot formation but U/S negative for arterial or venous
   clot in the liver.  Will start Fundaparinux for DVT PPX given ?HIT.
   - f/u heme recs
   # Enterococcal UTI: has been on Vancomycin
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  currently with AMS
   --continue lactulose, rifamixin, HD
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   last week..  HCT stable. No plan for scope currently
   - IV ppi [**Hospital1 7**]
   - cont to monitor Hct daily at this point
   - active T&S
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Access: right PICC line
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-20 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Increased pulmonary edema on CXR
   - Transjugular biopsy deferred due to another emergent case
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-18**] 01:04 PM
   Piperacillin - [**2124-12-19**] 04:20 AM
   Ciprofloxacin - [**2124-12-19**] 09:51 AM
   Meropenem - [**2124-12-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-20**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-20**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 71 (67 - 75) bpm
   BP: 104/47(64) {63/42(59) - 139/133(135)} mmHg
   RR: 18 (14 - 19) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.4 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,031 mL
                                                                    376 mL
   PO:
             TF:
   IVF:
                                                                    751 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                     31 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   57 K/uL
   70 mg/dL
   6.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   93 mg/dL
   102 mEq/L
   143 mEq/L
   31.3 %
   21.3 K/uL
        [image002.jpg]
                            [**2124-12-17**]  01:54 PM
                            [**2124-12-17**]  06:56 PM
                            [**2124-12-17**]  07:00 PM
                            [**2124-12-18**]  04:24 AM
                            [**2124-12-18**]  05:11 AM
                            [**2124-12-18**]  09:06 AM
                            [**2124-12-18**]  05:47 PM
                            [**2124-12-19**]  04:21 AM
                            [**2124-12-19**]  04:31 AM
                            [**2124-12-20**]  05:26 AM
   WBC
   25.3
   22.5
   21.3
   Hct
   30.1
   29.1
   31.3
   Plt
   64
   47
   57
   Cr
   6.4
   4.4
   6.4
   TropT
   0.25
   0.23
   TCO2
   30
   28
   28
   28
   29
   30
   Glucose
   112
   94
   70
   Other labs: PT / PTT / INR:33.4/59.9/3.4, CK / CKMB /
   Troponin-T:31//0.23, ALT / AST:411/536, Alk Phos / T Bili:163/14.1,
   Amylase / Lipase:/51, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.6 g/dL, LDH:300 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:6.8
   mg/dL
   Imaging: CXR - Pulmonary edema.
   Microbiology: CMV VL negative.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, acute renal failure possibly [**3-6**] hepatorenal
   syndrome, now with leukocytosis and worsening transaminitis over
   weekend.
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.  Worsening
   transaminitis of unclear etiology. Abd US negative for obstruction,
   portal vein clot.  Not enough fluid to do paracentesis.   Plan for
   liver biopsy.
   - Transjugular liver biopsy today, may need intubation for the
   procedure if needs excessive amounts of sedation
   - F/U with hepatology
   - Continue lactulose and rifaxamin
   - Thiamine/Folate
   # Leukocytosis: Consider on-going infection, drug reaction (in light of
   rash).  Last diff w/elevated Eosinophils.  C diff negative x 2.
   - Vanc/Zosyn/Cipro to cover enterococcus UTI, VAP, and SBP
   - Cefepime, levo stopped [**2124-12-16**]
   - ABD US negative for hepatic abscess, ascites, portal vein
   obstruction. Not enough fluid to tap.
   # Hypoxemic respiratory failure: Likely due to volume overload with
   aspiration / HAP. Self extubated [**12-17**]; doing well on face tent.
   Concerned regarding mentation that has worsened
   - On Vanc/Zosyn/Cipro for VAP
 Day [**4-9**]
   - OOB to chair
   - HD per renal
   - Bronchodilators
   #AKD with possible hepatorenal syndrome or ATI: on HD.
   - HD today
   - IR will change HD line today, but cannot do tunneled line give
   coagulopathy
   # Afib with RVR: Now in sinus rhythm
   - Continue lopressor
   - Consider dilt gtt if goes back into RVR
   # Thrombocytopenia/HIT+:
   - No anticoagulation at this time
   - HD all done with citrate
   ICU Care
   Nutrition: NPO, restart TF after IR procedure
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI daily
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-12-21 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2124-12-20**] 03:00 PM
 BLOOD CULTURED - At [**2124-12-20**] 06:33 PM
 ULTRASOUND - At [**2124-12-20**] 08:00 PM
   Patient intubated yesterday for hypoxia and hypotension.   CXR done
   after event showed +increased pulmonary edema, right sided effusion.
   Levophed started during event, now being weaned.
   PEEP increased from 5
 15, Fi02 decreased from 100%
 50%
   Labs sent, WBC increased from 21
 30.  +Lipase.  RUQ U/S was ordered
   given TTP in the morning.  No signs of obstruction or cholecystitis on
   U/S.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-18**] 01:04 PM
   Piperacillin - [**2124-12-19**] 04:20 AM
   Meropenem - [**2124-12-20**] 06:00 AM
   Ciprofloxacin - [**2124-12-20**] 10:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-21**] 04:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-20**] 08:45 AM
   Vecuronium - [**2124-12-20**] 02:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 62 (62 - 82) bpm
   BP: 118/48(67) {71/32(43) - 150/90(105)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.4 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,941 mL
                                                                    794 mL
   PO:
             TF:
   IVF:
                                                                  2,361 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,291 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (600 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 99%
   ABG: 7.35/41/115/23/-2
   Ve: 12.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   103 K/uL
   10.7 g/dL
   92 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.4 mEq/L
   104 mg/dL
   103 mEq/L
   143 mEq/L
   32.8 %
   28.2 K/uL
        [image002.jpg]
                            [**2124-12-18**]  05:47 PM
                            [**2124-12-19**]  04:21 AM
                            [**2124-12-19**]  04:31 AM
                            [**2124-12-20**]  05:26 AM
                            [**2124-12-20**]  11:10 AM
                            [**2124-12-20**]  04:31 PM
                            [**2124-12-20**]  06:21 PM
                            [**2124-12-20**]  08:37 PM
                            [**2124-12-21**]  04:33 AM
                            [**2124-12-21**]  04:58 AM
   WBC
   22.5
   21.3
   30.5
   28.2
   Hct
   29.1
   31.3
   32.8
   32.8
   Plt
   47
   57
   75
   103
   Cr
   4.4
   6.4
   6.4
   7.0
   TropT
   0.22
   0.22
   TCO2
   29
   30
   26
   26
   25
   24
   Glucose
   94
   70
   85
   92
   Other labs: PT / PTT / INR:39.5/56.8/4.1, CK / CKMB /
   Troponin-T:15//0.22, ALT / AST:317/340, Alk Phos / T Bili:171/15.9,
   Amylase / Lipase:/229, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:3.0 mmol/L,
   Albumin:2.8 g/dL, LDH:336 IU/L, Ca++:9.7 mg/dL, Mg++:2.7 mg/dL, PO4:8.7
   mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo M with HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now S/P SELF-EXTUBATION and
   with continuedtransaminitis and leukocytosis.
   # Leukocytosis: Unclear source at this time.  Patient has now completed
   course for HAP.  Urine Cx on [**12-4**] grew Vanco sensitive Enterococcus,
   and he has been on Vancomycin since that time.  UA 2 days ago with +WBC
   and bacteria but patient also anuric so unclear if this represents a
   real infection.  Zosyn was started.  CXR yesterday also concerning for
   LLL PNA so Cipro was added for HAP.
   -- cont Vanco/Zosyn/Cipro
   --Glucan, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out [**12-15**]
   --CMV Viral load negative
   # Transminitis/ elevated bili/ synthetic dysfunction: LFTs remain
   elevated.  Unclear cause at this time.  RUQ U/S showed no signs of
   obstruction, Portal Veins seem to be patent.   Plan for transjugular
   liver biopsy today
   -- lactulose, rifamixin
   --f/u hepatology recs
   --transjugular biopsy today
   # PNA, VENT:  Initially attributed to fluid overload in the setting of
   anuria [**3-6**] hepatorenal syndrome. CT Torso then confirmed multi lobar
   PNA.  Has now completed course for HAP; starting second HAP course as
   above. Self extubated yesterday morning, on face tent with marginal O2
   sats at 91%, ABG with pO2 of 67.  CXR today with increasing pulmonary
   congestion, needs HD fluid removal today
   -- cont face tent
   -- sit up in chair today
   -- HD today for fluid removal
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.   IR to
   place VIP line today during transjugular biopsy.  Permanent HD line on
   hold while coagulopathic.
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   --HD today
   # Atrial Fibrillation:  +afib with RVR over the weekend.  Now in sinus
   rhythm.  Trop + but CK negative which suggests demand ischemia while
   tachycardic, TSH normal.  Afib likely [**3-6**] current infection/fluid
   overload
   -- cont Metoprolol
   -- hold anticoagulation for now as patient in sinus rhythm, going for
   biopsy today
   # HIT: Ab positive. Serotonin release assay ordred.  Appreciate
   continued heme input.  No argatroban for now.  Concern was for hepatic
   ischemia [**3-6**] clot formation but U/S negative for arterial or venous
   clot in the liver.
   - f/u heme recs
   # Enterococcal UTI: has been on Vancomycin
   -day 1 abx on [**12-8**]. Plan for 14 day course.
   # Altered mental status/ Hepatic Encephalopathy:  currently with AMS
   --continue lactulose, rifamixin, HD
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   last week..  HCT stable since then
   -- change PPI to daily
   -- f/u HCT daily
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Access: right PICC line
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-21 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Intubated for acute hypoxic respiratory failure in the setting of
   hypotension
   - Pressors started for hypotension
   - Increased lipase - abd U/S without obstruction
   - Transjugular hepatic biopsy this am
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-18**] 01:04 PM
   Piperacillin - [**2124-12-19**] 04:20 AM
   Meropenem - [**2124-12-20**] 06:00 AM
   Ciprofloxacin - [**2124-12-20**] 10:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-21**] 04:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2124-12-20**] 02:53 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-21**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.4
   HR: 68 (62 - 82) bpm
   BP: 139/55(79) {71/32(43) - 150/90(105)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.4 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,941 mL
                                                                  1,143 mL
   PO:
             TF:
   IVF:
                                                                  2,361 mL
                                                                    773 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (600 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.35/41/115/23/-2
   Ve: 11 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   103 K/uL
   92 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.4 mEq/L
   104 mg/dL
   103 mEq/L
   143 mEq/L
   32.8 %
   28.2 K/uL
        [image002.jpg]
                            [**2124-12-18**]  05:47 PM
                            [**2124-12-19**]  04:21 AM
                            [**2124-12-19**]  04:31 AM
                            [**2124-12-20**]  05:26 AM
                            [**2124-12-20**]  11:10 AM
                            [**2124-12-20**]  04:31 PM
                            [**2124-12-20**]  06:21 PM
                            [**2124-12-20**]  08:37 PM
                            [**2124-12-21**]  04:33 AM
                            [**2124-12-21**]  04:58 AM
   WBC
   22.5
   21.3
   30.5
   28.2
   Hct
   29.1
   31.3
   32.8
   32.8
   Plt
   47
   57
   75
   103
   Cr
   4.4
   6.4
   6.4
   7.0
   TropT
   0.22
   0.22
   TCO2
   29
   30
   26
   26
   25
   24
   Glucose
   94
   70
   85
   92
   Other labs: PT / PTT / INR:39.5/56.8/4.1, CK / CKMB /
   Troponin-T:15//0.22, ALT / AST:317/340, Alk Phos / T Bili:171/15.9,
   Amylase / Lipase:/229, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:3.0 mmol/L,
   Albumin:2.8 g/dL, LDH:336 IU/L, Ca++:9.7 mg/dL, Mg++:2.7 mg/dL, PO4:8.7
   mg/dL
   Imaging: CXR - Improved infiltrates and aeration bilaterally.  L
   effusion.
   Microbiology: Blood cultures and c. diff pending.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome. Self extubated and doing well [**12-18**], then with acute
   decompensation [**12-20**] with hypoxia and hypotension requiring emergent
   reintubation and pressors.
   # Hypoxemic respiratory failure: Likely due to atelectasis and volume
   overload superimposed on aspiration / HAP.  Reintubated yesterday and
   now improved with increased PEEP.
   - On Vanc/Zosyn/Cipro for VAP
 Day [**5-10**]
   - Bronch for secretion clearance
   - HD per renal
   - Bronchodilators
   # Hypotension: Likely from sepis [**3-6**] abdominal source given increased
   abd pain yesterday, increased lactate, increased lipase, worsening
   leukocytosis.  Also must consider pulmonary source.
   - Bronch to evaluate airways and send sputum culture
   - If unremarkable
 consider abd CT with PO/IV contrast (d/w renal)
   - F/U pan cultures
   - Continue Vanc/Zosyn/Cipro to cover enterococcus UTI, VAP, and SBP
   - Empiric flagyl to cover c.diff
   # Cirrhosis: Acute decompensation likely [**3-6**] ETOH abuse.  Worsening
   transaminitis of unclear etiology. Abd US negative for obstruction,
   portal vein clot.  Not enough fluid to do paracentesis.   Plan for
   liver biopsy.
   - Transjugular liver biopsy today
   - F/U with hepatology
   - Continue lactulose and rifaxamin
   - Thiamine/Folate
   #AKD with possible hepatorenal syndrome or ATI: On HD.   S/p renal line
   resited.
   - CVVHD today
   # Afib with RVR: Now in sinus rhythm
   - Continue lopressor
   - Consider dilt gtt if goes back into RVR
   # Thrombocytopenia/HIT+:  Serotonin assay negative
   - No anticoagulation at this time
   - HD all done with citrate
   - Discuss serotonin assay with heme
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-8**] 03:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-12-22 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2124-12-21**] 11:00 AM
 DIALYSIS CATHETER - STOP [**2124-12-21**] 11:02 AM
 BRONCHOSCOPY - At [**2124-12-21**] 11:45 AM
 BAL FLUID CULTURE - At [**2124-12-21**] 11:45 aM
 BLOOD CULTURED - At [**2124-12-21**] 02:30 PM
   - liver bx done
   - bronch with b/l LL thick secretions L>R
   - CVVH restarted, meds adjusted
   - CT torso with mild pancreatic fat stranding, improvement in lung
   fields. Interval increase in ascites. Cholelithiasis.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2124-12-20**] 06:00 AM
   Ciprofloxacin - [**2124-12-21**] 11:15 AM
   Vancomycin - [**2124-12-21**] 03:30 PM
   Metronidazole - [**2124-12-22**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-22**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-21**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-22**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 65 (59 - 72) bpm
   BP: 101/64(80) {97/43(58) - 139/81(97)} mmHg
   RR: 20 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139.4 kg (admission): 175.1 kg
   Height: 70 Inch
             Total In:
                                                                  3,410 mL
                                                                  1,051 mL
   PO:
             TF:
   IVF:
                                                                  2,200 mL
                                                                  1,051 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,093 mL
   Urine:
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                  1,810 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 95%
   ABG: 7.30/40/146/15/-5
   Ve: 12 L/min
   PaO2 / FiO2: 292
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: unchanged, still mildly
   TTP peri-umbilical
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   79 K/uL
   10.4 g/dL
   86 mg/dL
   6.4 mg/dL
   15 mEq/L
   5.1 mEq/L
   86 mg/dL
   103 mEq/L
   137 mEq/L
   31.3 %
   25.0 K/uL
        [image002.jpg] C diff negative
   BAL cultures pending
   CMV VL negative
                            [**2124-12-20**]  04:31 PM
                            [**2124-12-20**]  06:21 PM
                            [**2124-12-20**]  08:37 PM
                            [**2124-12-21**]  04:33 AM
                            [**2124-12-21**]  04:58 AM
                            [**2124-12-21**]  02:32 PM
                            [**2124-12-21**]  11:30 PM
                            [**2124-12-21**]  11:39 PM
                            [**2124-12-22**]  05:36 AM
                            [**2124-12-22**]  05:50 AM
   WBC
   30.5
   28.2
   19.1
   25.0
   Hct
   32.8
   32.8
   29.8
   31.3
   Plt
   75
   103
   68
   79
   Cr
   6.4
   7.0
   7.8
   6.4
   TropT
   0.22
   0.22
   TCO2
   26
   25
   24
   22
   23
   20
   Glucose
   85
   92
   93
   86
   Other labs: PT / PTT / INR:43.1/68.2/4.6, CK / CKMB /
   Troponin-T:15//0.22, ALT / AST:257/255, Alk Phos / T Bili:143/14.7,
   Amylase / Lipase:/229, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:179 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:2.8 g/dL, LDH:250 IU/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:7.7
   mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo M with HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now reintubated s/p acute
   decompensation on [**12-20**]
   # Hypotension: Occurred in the setting of initiation of HD prior to
   significant fluid removal. Occurred acutely as did hypoxia. Likely [**3-6**]
   to some underlying infectious process given worsening leukocytosis.
   - wean levophed as tolerated
   - workup as below
   # PNA?, VENT, hypoxic resp failure:  self extubated & doing well until
   acute decompensation [**12-21**]. CXR shows perihilar pulmonary vasuclar
   congestion which is improved w/ peep likely [**3-6**] to increased lung
   volumes and positive pressure effect on edema. Patient has now
   completed course for HAPx1 & is d5/8 for VAP .
   - Continue mechnical ventilation, serial ABG w/ vent adjustemnts
   - f/u BAL cultures
   -f/u AM CXR
   # Leukocytosis: Unclear source at this time; all cultures have been
   negative except initial urine for which he is completing a course.
   -- cont Vanco/Zosyn/Cipro D5/8
   --Glucan, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out [**12-15**], [**12-21**], repeat pending
   --CMV Viral load negative
   --Abd CT negative for abscess. Some mild peripancreatic stranding.
   --consult ID
   # Transminitis/ elevated bili/ synthetic dysfunction: LFTs remain
   elevated.  Unclear cause at this time.  RUQ U/S showed no signs of
   obstruction, Portal Veins seem to be patent.
   -- lactulose, rifamixin
   --f/u hepatology recs
   -- f/u liver biopsy
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.   IR to
   place VIP line today during transjugular biopsy.  Permanent HD line on
   hold while coagulopathic.
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   --CVVH today
   # Atrial Fibrillation:  +afib with RVR over the weekend.  Now in sinus
   rhythm.  Trop + but CK negative which suggests demand ischemia while
   tachycardic, TSH normal.  Afib likely [**3-6**] current infection/fluid
   overload
   -- cont Metoprolol with holding parameters
   -- hold anticoagulation for now as patient unstable
   # HIT: Ab positive. Serotonin release NEGATIVE.
   - d/w Heme today re: restarting heparin SQ PPX
   # Enterococcal UTI:
   -Completed 14 day course of Vanc.
   # Altered mental status/ Hepatic Encephalopathy:  currently with AMS
   --continue lactulose, rifamixin, HD
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   last week..  HCT stable since then
   -- PPI
   -- f/u HCT daily
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Access: right PICC line
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-23 08:01:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   Liver biopsy (prelim): Stage 4 fibrosis ie. cirrhosis
   Heme okay with restarting SQ heparin
   ID recs: repeat UA, repeat Cdiff, CBC with diff, stop Vanc, hep B and
   hep C viral loads
   ?HIV -document negative HIV from [**Hospital1 **]
   consider tapping ascites -would help with fungal
   add on AFB, fungal, galactomannan onto BAL fluid
   Coags verhy high, gave 2u FFP. Not actively bleeding. D/c-ed SQ
   heparin. ? DIC
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2124-12-22**] 04:00 AM
   Vancomycin - [**2124-12-22**] 10:11 AM
   Ciprofloxacin - [**2124-12-22**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-23**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-22**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-23**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 84 (68 - 84) bpm
   BP: 118/43(64) {88/36(49) - 122/71(80)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 147.9 kg (admission): 175.1 kg
   Height: 70 Inch
           Total In:
                                                                  4,305 mL
                                                                  1,321 mL
   PO:
           TF:
                                                                    240 mL
                                                                    160 mL
   IVF:
                                                                  3,496 mL
                                                                  1,109 mL
   Blood products:
                                                                    539 mL
                                                                     52 mL
   Total out:
                                                                  4,309 mL
                                                                  1,818 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                   -497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 475 (457 - 539) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.30/36/136/15/-7
   Ve: 13 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   9.2 g/dL
   97 mg/dL
   4.0 mg/dL
   15 mEq/L
   8.4 mEq/L
   45 mg/dL
   103 mEq/L
   131 mEq/L
   29.6 %
   23.7 K/uL
        [image002.jpg]
                            [**2124-12-22**]  05:36 AM
                            [**2124-12-22**]  05:50 AM
                            [**2124-12-22**]  10:33 AM
                            [**2124-12-22**]  05:02 PM
                            [**2124-12-22**]  05:41 PM
                            [**2124-12-22**]  06:40 PM
                            [**2124-12-23**]  12:30 AM
                            [**2124-12-23**]  12:46 AM
                            [**2124-12-23**]  05:09 AM
                            [**2124-12-23**]  05:30 AM
   WBC
   25.0
   20.2
   24.8
   23.7
   Hct
   31.3
   28.4
   30.8
   29.6
   Plt
   79
   57
   61
   69
   Cr
   6.4
   5.8
   4.8
   3.3
   4.0
   TCO2
   20
   19
   19
   20
   18
   Glucose
   86
   87
   81
   109
   97
   Other labs: PT / PTT / INR:55.1/82.4/6.1, CK / CKMB /
   Troponin-T:15//0.22, ALT / AST:1307/5023, Alk Phos / T Bili:246/13.3,
   Amylase / Lipase:/229, Differential-Neuts:87.3 %, Band:0.0 %, Lymph:5.5
   %, Mono:3.4 %, Eos:3.4 %, Fibrinogen:76 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:2.8 g/dL, LDH:2880 IU/L, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL,
   PO4:6.6 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo M with HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now reintubated s/p acute
   decompensation on [**12-20**]
   # Hypotension: Occurred in the setting of initiation of HD prior to
   significant fluid removal. Occurred acutely as did hypoxia. Likely [**3-6**]
   to some underlying infectious process given worsening leukocytosis.
   - wean levophed as tolerated
   - workup as below
   # PNA?, VENT, hypoxic resp failure:  self extubated & doing well until
   acute decompensation [**12-21**]. CXR shows perihilar pulmonary vasuclar
   congestion which is improved w/ peep likely [**3-6**] to increased lung
   volumes and positive pressure effect on edema. Patient has now
   completed course for HAPx1 & is d5/8 for VAP .
   - Continue mechnical ventilation, serial ABG w/ vent adjustemnts
   - f/u BAL cultures
   -f/u AM CXR
   # Leukocytosis: Unclear source at this time; all cultures have been
   negative except initial urine for which he is completing a course.
   -- cont Vanco/Zosyn/Cipro D5/8
   --Glucan, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out [**12-15**], [**12-21**], repeat pending
   --CMV Viral load negative
   --Abd CT negative for abscess. Some mild peripancreatic stranding.
   --consult ID
   # Transminitis/ elevated bili/ synthetic dysfunction: LFTs remain
   elevated.  Unclear cause at this time.  RUQ U/S showed no signs of
   obstruction, Portal Veins seem to be patent.
   -- lactulose, rifamixin
   --f/u hepatology recs
   -- f/u liver biopsy
   # Acute renal failure: likely hepatorenal, oliguric, now on HD.   IR to
   place VIP line today during transjugular biopsy.  Permanent HD line on
   hold while coagulopathic.
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   --CVVH today
   # Atrial Fibrillation:  +afib with RVR over the weekend.  Now in sinus
   rhythm.  Trop + but CK negative which suggests demand ischemia while
   tachycardic, TSH normal.  Afib likely [**3-6**] current infection/fluid
   overload
   -- cont Metoprolol with holding parameters
   -- hold anticoagulation for now as patient unstable
   # HIT: Ab positive. Serotonin release NEGATIVE.
   - d/w Heme today re: restarting heparin SQ PPX
   # Enterococcal UTI:
   -Completed 14 day course of Vanc.
   # Altered mental status/ Hepatic Encephalopathy:  currently with AMS
   --continue lactulose, rifamixin, HD
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   last week..  HCT stable since then
   -- PPI
   -- f/u HCT daily
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Access: right PICC line
   # Code: Full
   # Comm: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-12-22**] 12:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-23 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome. Self extubated and doing well [**12-18**], then with acute
   decompensation [**12-20**] with hypoxia and hypotension requiring emergent
   reintubation and pressors.
   24 Hour Events:
   Per Heme ok to resume heparin given neg serotonin assay. Per ID ok to
   dc vanco. Tranfused FFP for rising INR, though no signs of active
   bleeding. Propofol off since this am and not responsive.
   Patient unable to provide history: Unresponsive
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2124-12-22**] 04:00 AM
   Vancomycin - [**2124-12-22**] 10:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-23**] 04:00 AM
   Ciprofloxacin - [**2124-12-23**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Rifaximin, Lactulose, Renagel, Peridex, Protonix, Levophed, MVI,
   folate, Ciprofloxacin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-23**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 87 (70 - 87) bpm
   BP: 120/56(74) {88/36(49) - 122/71(79)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 146.7 kg (admission): 175.1 kg
   Height: 70 Inch
           Total In:
                                                                  4,305 mL
                                                                  1,964 mL
   PO:
           TF:
                                                                    240 mL
                                                                    207 mL
   IVF:
                                                                  3,496 mL
                                                                  1,654 mL
   Blood products:
                                                                    539 mL
                                                                     52 mL
   Total out:
                                                                  4,309 mL
                                                                  2,388 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                   -424 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 660 (650 - 660) mL
   Vt (Spontaneous): 475 (457 - 539) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.30/36/136/16/-7
   Ve: 15 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   69 K/uL
   87 mg/dL
   3.4 mg/dL
   16 mEq/L
   5.3 mEq/L
   41 mg/dL
   104 mEq/L
   135 mEq/L
   29.6 %
   23.7 K/uL
        [image002.jpg]
                            [**2124-12-22**]  05:36 AM
                            [**2124-12-22**]  05:50 AM
                            [**2124-12-22**]  10:33 AM
                            [**2124-12-22**]  05:02 PM
                            [**2124-12-22**]  05:41 PM
                            [**2124-12-22**]  06:40 PM
                            [**2124-12-23**]  12:30 AM
                            [**2124-12-23**]  12:46 AM
                            [**2124-12-23**]  05:09 AM
                            [**2124-12-23**]  05:30 AM
   WBC
   25.0
   20.2
   24.8
   23.7
   Hct
   31.3
   28.4
   30.8
   29.6
   Plt
   79
   57
   61
   69
   Cr
   6.4
   5.8
   4.8
   3.3
   3.4
   TCO2
   20
   19
   19
   20
   18
   Glucose
   86
   87
   81
   109
   87
   Other labs: PT / PTT / INR:55.1/82.4/6.1, CK / CKMB /
   Troponin-T:15//0.22, ALT / AST:1307/5023, Alk Phos / T Bili:246/13.3,
   Amylase / Lipase:/229, Differential-Neuts:87.3 %, Band:0.0 %, Lymph:5.5
   %, Mono:3.4 %, Eos:3.4 %, Fibrinogen:76 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:2.8 g/dL, LDH:2880 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.7 mg/dL
   Fluid analysis / Other labs: Liver bx path- Stge IV cirrhosis and some
   necrosis
   [**Last Name (un) 4195**]- pending
   Imaging: CXR- ? mild interstitial edema; underpenetrated film
   Microbiology: HCV, EBV- pending
   Hepatitis panel- neg
   Bronch studies- pending
   C diff- neg
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome. Self extubated and doing well [**12-18**], then with acute
   decompensation [**12-20**] with hypoxia and hypotension requiring emergent
   reintubation and pressors.
   Presumed septic shock: Likely from sepis [**3-6**] abdominal source given
   increased abd pain yesterday, increased LFTs/bili, lactate, increased
   lipase, worsening leukocytosis. Also must consider pulmonary source.
   Pan CT unrevealing.
   - goal MAP 60, wean Levophed as tolerated
   - F/U pan cultures, bronch studies
   - Continue Zosyn/Cipro to cover enterococcus UTI, VAP, and SBP
   - D/c flagyl as c.diff negative
   - ID following
   Hypoxemic respiratory failure: Likely due to atelectasis and volume
   overload superimposed on aspiration / HAP.  S/p bronch [**12-21**] for
   secretion clearance.
   - On Zosyn/Cipro for VAP
 Day [**7-10**]; vanco stopped per ID
   - CVVH per renal for fluid removal
   - Bronchodilators
   -cont PSV trials as tolerated
   Cirrhosis: Initial decompensation likely [**3-6**] ETOH abuse.  Worsening
   transaminitis with elevated bili of unclear etiology. Abd US negative
   for obstruction, portal vein clot.  CT unrevealing. Not enough fluid to
   do paracentesis.   S/p liver biopsy.  Markedly increased transaminases
   in the last 24h
   -repeat LFTs to ensure accuracy of values
   -need to touch base w/ hepatology svce re: mgmt. At this point support
   hemodynamics and cont workup
   -clarfiy HIV status; Hep serologies negative but will add on hep E,
   HSV, EBV and [**Last Name (un) 4195**]
   -Continue lactulose and rifaxamin
   -add standing vit K
   -Thiamine/Folate
   Obtundation: off propofol
   -continue to hold sedation and monitor, expected delayed recovery
   -cont lactulose and rifaximin
   -cont thiamine and folate
   AKD with possible hepatorenal syndrome or ATI: On HD.   S/p renal line
   resited.
   - On CVVHD per Renal
   Afib with RVR: Now in sinus rhythm
   -  Holding lopressor while on pressors
   Thrombocytopenia/HIT+:  Serotonin assay negative
   - Per Heme ok to use heparin for anticoag
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-12-22**] 12:00 PM 20 mL/hour
   Comments: tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Arterial Line - [**2124-12-13**] 07:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Communication:  Comments: with parents, can touch base again today
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.
   CC: hypotension, resp failure, altered mental status, cirrhosis, septic
   shock
   62 yo man with hypotension with increased pressor requirement, hepatic
   failure, GI bleed (inactive now), renal failure on CVVH.
   Major issue today is unclear source of markedly increased
   transaminases. Pt had hypotensive period to systolic 80s ~30 min day
   prior, no e/o thrombus. Abx: zosyn, cipro, flagyl, vanco empirically
   for VAP, CDiff. Had stopped flagyl and vanco yesterday but restarted
   with hypotensive episode today to SBP 70s-80s, norepinephrine dependent
   for maintaining normotensive.
   Resp failure with FiO2 0.4.
   Obtunded, off sedation.
   PERRL, RRR, NSR, lungs bilat crackles at bases, trace bilat edema,
   unresponsive
   Plan as described above by Dr [**Last Name (STitle) 5199**].
   32 min critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2124-12-23**] 18:46 ------

2124-12-24 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2124-12-23**] 08:03 PM
 EKG - At [**2124-12-24**] 03:09 AM
   Patient became increasingly hypotensive yesterday afternnoon, required
   increases in Levophed.  Lactate drawn and was 5.9, LFTs continue to
   rise.  Patient was given 4L IVF overnight and 1u PRBC.
   Aline was not coinciding with arm cuff pressure so aline was
   discontinued.  Arm cuff [**Location (un) **] pressures in 100s-120s.
   Bedside portable U/S done showed no ascited to tap.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-12-23**] 10:00 AM
   Vancomycin - [**2124-12-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-23**] 08:00 PM
   Metronidazole - [**2124-12-24**] 02:00 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2124-12-24**] 05:27 AM
   Dextrose 50% - [**2124-12-24**] 06:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 90 (83 - 144) bpm
   BP: 121/35(55) {101/20(46) - 139/51(63)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 146.7 kg (admission): 175.1 kg
   Height: 70 Inch
    CVP: 6 (3 - 13)mmHg
   Total In:
                                                                  7,593 mL
                                                                  5,369 mL
   PO:
   TF:
                                                                    677 mL
                                                                    274 mL
   IVF:
                                                                  6,129 mL
                                                                  4,720 mL
   Blood products:
                                                                    597 mL
                                                                    375 mL
   Total out:
                                                                  6,588 mL
                                                                  2,109 mL
   Urine:
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,005 mL
                                                                  3,260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 660) mL
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.26/34/86.[**Numeric Identifier 143**]/12/-10
   Ve: 17.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: Intubated, not responding to commands, +icteric sclera, +jaundice
   CVS: +S1/S2, no M/R/G, RRR
   LUNGS: CTAB in anterior lung fields
   ABD: +BS, soft, NT/ND
   EXT: no peripheral edema, +2 pulses
   Labs / Radiology
   48 K/uL
   8.8 g/dL
   32 mg/dL
   1.8 mg/dL
   12 mEq/L
   5.1 mEq/L
   20 mg/dL
   104 mEq/L
   135 mEq/L
   27.3 %
   15.6 K/uL
        [image002.jpg]
                            [**2124-12-23**]  12:30 AM
                            [**2124-12-23**]  12:46 AM
                            [**2124-12-23**]  05:09 AM
                            [**2124-12-23**]  05:30 AM
                            [**2124-12-23**]  10:52 AM
                            [**2124-12-23**]  11:10 AM
                            [**2124-12-23**]  03:52 PM
                            [**2124-12-23**]  06:42 PM
                            [**2124-12-23**]  11:16 PM
                            [**2124-12-24**]  05:11 AM
   WBC
   24.8
   23.7
   19.6
   19.3
   15.6
   Hct
   30.8
   29.6
   27.1
   29.0
   27.3
   Plt
   61
   69
   43
   47
   48
   Cr
   3.3
   3.4
   2.6
   2.2
   1.8
   TropT
   0.16
   TCO2
   20
   18
   18
   16
   Glucose
   109
   87
   98
   79
   65
   32
   Other labs: PT / PTT / INR:61.9/83.2/7.0, CK / CKMB /
   Troponin-T:45//0.16, ALT / AST:2510/7431, Alk Phos / T Bili:486/16.1,
   Amylase / Lipase:/229, Differential-Neuts:87.3 %, Band:0.0 %, Lymph:5.5
   %, Mono:3.4 %, Eos:3.4 %, Fibrinogen:68 mg/dL, Lactic Acid:7.7 mmol/L,
   Albumin:2.8 g/dL, LDH:2670 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.4 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo M with HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now reintubated s/p acute
   decompensation on [**12-20**]
   # Hypotension: Episodes of hypotension yesterday thought to be [**3-6**]
   sepsis.  Patient was given 4L IVF, Levophed was uptitrated.   Hydrocort
   was started yesterday given recent Cosyntropin test that did not show
   an appropriate increase s/p cosyntropin.   Vanco and Flagyl were
   restarted as these antibiotics were d/c
ed the day prior and patient
   now with signs of sepsis off of these antibiotics.
   - wean levophed as tolerated
   - f/u cultures
   - cont hydrocort
   - hold IVF for now as CVP now 14-15 (5 yesterday)
   # ?Sepsis: Unclear source at this time; all cultures have been negative
   except initial urine for which he is completing a course.   Most likely
   cause at this time is hepatic cirrhosis and liver failure.  Per
   hepatology, no clear cause of liver failure at this time.
   -- cont Vanco/Zosyn/Cipro D7/8
   --Glucan, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out [**12-15**], [**12-21**]
   --CMV Viral load negative
   --Abd CT negative for abscess. Some mild peripancreatic stranding.
   --f/u ID consult
   # Transminitis/ elevated bili/ synthetic dysfunction: LFTs seem to have
   peaked.  Unclear cause at this time.  RUQ U/S done yesterday showed no
   signs of obstruction, Portal Veins seem to be patent.    CT Abd showed
   no abnormalitly except cirrhosis.  Liver biopsy also showing cirrhosis,
   unclear cause.
   -- cont lactulose, rifamixin
   -- f/u hepatology recs
   # PNA?, VENT, hypoxic resp failure:  self extubated & doing well until
   acute decompensation [**12-21**]. CXR shows perihilar pulmonary vasuclar
   congestion which is improved w/ peep likely [**3-6**] to increased lung
   volumes and positive pressure effect on edema. Patient has now
   completed course for HAPx1 & is d7/8 for VAP .
   - Continue mechnical ventilation, serial ABG w/ vent adjustments
   -- cont Vanco/Zosyn/Cipro D7/8
   - wean vent as tolerated
   - f/u BAL cultures
   - f/u AM CXR
   # Acute renal failure: likely hepatorenal, oliguric, on CVVH but
   stopped overnight [**3-6**] hypotenstion and rising lactate
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   --restart CVVH today
   # Atrial Fibrillation:  +afib with RVR overnight, started on Dilt gtt.
   Afib likely [**3-6**] sepsis/hypotenstion.  Levophed also contributing.  Plan
   is to wean levophed and start vasopressin.  Will titrate dilt off given
   hypotension.
   -- holding metoprolol while on pressors
   -- wean Dilt gtt
   -- wean levophed, start vasopressin vs Neo if needed
   -- hold anticoagulation for now given coagulopathy
   # HIT: Ab positive. Serotonin release NEGATIVE.
   -- on Hep SQ
   # Enterococcal UTI:
   -Completed 14 day course of Vanc.
   # Altered mental status/ Hepatic Encephalopathy:  currently with AMS
   --continue lactulose, rifamixin, HD
   # ETOH hx:
   --thiamine, folate supplementation
   # Coffee Ground Emesis: patient with episode of coffee ground emesis
   last week..  HCT stable since then
   -- PPI
   -- f/u HCT daily
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Access: right PICC line
   # Code: DNR (confirmed with father, HCP yesterday)
   # [**Name2 (NI) **]: parents
   # Dispo: ICU
   ------ Protected Section ------
   RUQ U/S done yesterday to eval for Portal vein thrombosis.  Prelim read
   shows main portal vein patent.  Right portal Vein was not well
   visualized and occlusion could not be excluded.  Radiology contact[**Name (NI) **],
   will f/u final read today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 11293**] [**Last Name (NamePattern1) 4826**], MD
   on:[**2124-12-24**] 11:58 ------

2124-12-24 08:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome. Self extubated and doing well [**12-18**], then with acute
   decompensation [**12-20**] with hypoxia and hypotension requiring emergent
   reintubation and pressors.
   24 Hour Events:
   Yest notable for marked increase in AST and ALT as well as increased
   pressor requirement and lactate bump; stabilized with 4L IVF, 1uPRBC
   and stress-dose steroids as well as with resumption of vancomycin and
   metronidazole. Afib w/ RVR overnight controlled w/ diltiazem gtt.
   Unable to visualize pocket of ascites at bedside for paracent. A line
   pulled for dampened waveform and poor correlation with noninvasive
   pressures. CVVH also held overnight. Per housestaff conversation with
   father and stepmother, code status changed to DNR
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-12-23**] 10:00 AM
   Vancomycin - [**2124-12-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-23**] 08:00 PM
   Metronidazole - [**2124-12-24**] 02:00 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2124-12-24**] 05:27 AM
   Dextrose 50% - [**2124-12-24**] 06:39 AM
   Other medications:
   Rifaximin, Lactulose, Renagel, Peridex, Protonix, MVI, folate,
   Atrovent, vit K, hydrocort 50 q6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-24**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 90 (83 - 144) bpm
   BP: 121/35(55) {101/20(46) - 139/51(63)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 146.7 kg (admission): 175.1 kg
   Height: 70 Inch
   CVP: 6 (3 - 13)mmHg
   Total In:
                                                                  7,593 mL
                                                                  5,430 mL
   PO:
   TF:
                                                                    677 mL
                                                                    297 mL
   IVF:
                                                                  6,129 mL
                                                                  4,758 mL
   Blood products:
                                                                    597 mL
                                                                    375 mL
   Total out:
                                                                  6,588 mL
                                                                  2,109 mL
   Urine:
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,005 mL
                                                                  3,321 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 660) mL
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.26/34/86.[**Numeric Identifier 143**]/12/-10
   Ve: 17.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), CVP 12-15
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   48 K/uL
   32 mg/dL
   1.8 mg/dL
   12 mEq/L
   5.1 mEq/L
   20 mg/dL
   104 mEq/L
   135 mEq/L
   27.3 %
   15.6 K/uL
        [image002.jpg]
                            [**2124-12-23**]  12:30 AM
                            [**2124-12-23**]  12:46 AM
                            [**2124-12-23**]  05:09 AM
                            [**2124-12-23**]  05:30 AM
                            [**2124-12-23**]  10:52 AM
                            [**2124-12-23**]  11:10 AM
                            [**2124-12-23**]  03:52 PM
                            [**2124-12-23**]  06:42 PM
                            [**2124-12-23**]  11:16 PM
                            [**2124-12-24**]  05:11 AM
   WBC
   24.8
   23.7
   19.6
   19.3
   15.6
   Hct
   30.8
   29.6
   27.1
   29.0
   27.3
   Plt
   61
   69
   43
   47
   48
   Cr
   3.3
   3.4
   2.6
   2.2
   1.8
   TropT
   0.16
   TCO2
   20
   18
   18
   16
   Glucose
   109
   87
   98
   79
   65
   32
   Other labs: PT / PTT / INR:61.9/83.2/7.0, CK / CKMB /
   Troponin-T:45//0.16, ALT / AST:2510/7431, Alk Phos / T Bili:486/16.1,
   Amylase / Lipase:/229, Differential-Neuts:87.3 %, Band:0.0 %, Lymph:5.5
   %, Mono:3.4 %, Eos:3.4 %, Fibrinogen:68 mg/dL, Lactic Acid:6.8 mmol/L,
   Albumin:2.8 g/dL, LDH:2670 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.4 mg/dL
   Fluid analysis / Other labs: [**Last Name (un) 4195**]- pending
   Imaging: RUQ US- no clear clot noted
   CXR- bibasilar infiltrate
   Microbiology: Bronch BAL w/ yeast, all others neg or pending
   Hep E, EBV, HSV- pending
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome. Self extubated and doing well [**12-18**], then with acute
   decompensation [**12-20**] with hypoxia and hypotension requiring emergent
   reintubation and pressors. Further worsening of pressor requirement and
   marked transaminitis since [**12-23**].
   Presumed septic shock: Likely from sepis [**3-6**] abdominal source given
   increased abd pain yesterday, increased LFTs/bili, lactate. Also must
   consider pulmonary source. Pan CT unrevealing.  Other contributing
   factors include relative adrenal insuff and metabolic acidemia
   - goal MAP 55-60, wean Levophed as tolerated. Would hold off on further
   fluid resuscitation
   - CVVH to resume today for correction of acid-base disturbance
   - Continue Zosyn/Cipro to cover enterococcus UTI, VAP, and SBP; cont
   metronidazole and vancomycin added back yesterday
   - F/U pan cultures, bronch studies; f/u fungal cx and consider
   micafungin
   - touch base w/ ID service
   - cont stress-dose steroids
   Decompensated liver disease: : Initial decompensation likely [**3-6**] ETOH
   abuse.  Worsening transaminitis with elevated bili of unclear etiology.
   Abd US negative for obstruction, portal vein clot.  CT unrevealing. Not
   enough fluid to do paracentesis.   S/p liver biopsy.  Markedly
   increased transaminases in the last 24h
   -need to touch base w/ hepatology svce re: mgmt. At this point support
   hemodynamics and cont workup
   -clarfiy HIV status; Hep serologies negative but will add on hep E,
   HSV, EBV and [**Last Name (un) 4195**]
   -Continue lactulose and rifaxamin
   -add standing vit K
   -Thiamine/Folate
   Afib w/ RVR: likely driven by norepi gtt and septic shock picture
   -titrate off diltiazem gtt and reduce norepi gtt or switch if still
   with afib/rvr despite
   Hypoxemic respiratory failure: Likely due to atelectasis and volume
   overload superimposed on aspiration / HAP.  S/p bronch [**12-21**] for
   secretion clearance.
   -On Zosyn/Cipro for VAP
 Day [**8-9**]; broadened as above yestrerd
   -Bronchodilators
   -further vent weaning currently limited by septic shock and poor mental
   status
   Obtundation: off propofol and still poorly responsive
   -continue to hold sedation and monitor, expected delayed recovery
   -cont lactulose and rifaximin
   -cont thiamine and folate
   AKD with possible hepatorenal syndrome or ATI: On HD.   S/p renal line
   resited.
   - On CVVHD per Renal
   Thrombocytopenia/HIT+:  Serotonin assay negative
   - Per Heme ok to use heparin for anticoag
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-12-24**] 02:21 AM 35 mL/hour
   Glycemic Control:  Comments: hypoglycemia on chem 7 this AM, received 1
   amp d50
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
    Remains on maximal medical therapy with vent, pressor and renal
   support
   Tmax: 36.2
C (97.1
F)  Tcurrent: 36.2
C (97.1
F)  HR: 90 (83 - 144)
   bpm  BP: 121/35(55) {101/20(46) - 139/51(63)} mmHg
   RR: 23 (17 - 25) insp/min  SpO2: 96%   Heart rhythm: AF (Atrial
   Fibrillation)   CVP: 6 (3 - 13)mmHg
   Balance:  24 hours 1,005 mL    12 hours 3,321 mL
   CMV 14/650/15/0.4   PIP: 29 cmH2O  Plateau: 27 cmH2O  SpO2: 96%
   7.26/34/86   Ve: 17.8 L/min  PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), CVP 12-15
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Jaundice
   Labs and imaging reviewed and recorded above
   Problems: resp failure, liver failure, renal failure, cardiovascular
   failure, a-fib, poor mental status, anemia, thrombocytopenia
   Agree with plan to continue care at present level as outlined in Dr.
   [**Last Name (STitle) 9009**]
s note
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2124-12-24**] 16:21 ------

2124-12-25 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2124-12-24**] 05:40 PM
   - did not respond to neo, had to stay on levophed + vasopressin
   - in and out of afib rate controlled with dilt drip
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-23**] 06:30 PM
   Ciprofloxacin - [**2124-12-24**] 10:00 PM
   Metronidazole - [**2124-12-25**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-25**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Diltiazem - 10 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2124-12-24**] 06:00 PM
   Metoprolol - [**2124-12-24**] 06:25 PM
   Diltiazem - [**2124-12-24**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-25**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 35.5
C (95.9
   HR: 93 (76 - 126) bpm
   BP: 110/53(69) {92/30(-2) - 121/53(69)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 146.7 kg (admission): 175.1 kg
   Height: 70 Inch
    CVP: 14 (3 - 17)mmHg
   Total In:
                                                                  8,797 mL
                                                                  1,493 mL
   PO:
   TF:
                                                                    727 mL
                                                                    277 mL
   IVF:
                                                                  7,485 mL
                                                                  1,216 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,550 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,247 mL
                                                                  1,493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.28/39/78.[**Numeric Identifier 181**]/17/-7
   Ve: 13 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, Cyanosis, Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   54 K/uL
   9.2 g/dL
   88 mg/dL
   1.2 mg/dL
   17 mEq/L
   3.9 mEq/L
   13 mg/dL
   100 mEq/L
   133 mEq/L
   27.9 %
   15.6 K/uL
        [image002.jpg]
                            [**2124-12-23**]  03:52 PM
                            [**2124-12-23**]  06:42 PM
                            [**2124-12-23**]  11:16 PM
                            [**2124-12-24**]  05:11 AM
                            [**2124-12-24**]  09:46 AM
                            [**2124-12-24**]  03:44 PM
                            [**2124-12-24**]  09:50 PM
                            [**2124-12-24**]  09:58 PM
                            [**2124-12-25**]  03:52 AM
                            [**2124-12-25**]  04:01 AM
   WBC
   19.6
   19.3
   15.6
   16.2
   15.6
   Hct
   27.1
   29.0
   27.3
   26.9
   27.9
   Plt
   43
   47
   48
   50
   54
   Cr
   2.6
   2.2
   1.8
   2.4
   2.2
   1.8
   1.2
   TropT
   0.16
   TCO2
   16
   20
   19
   Glucose
   79
   65
   32
   45
   86
   55
   88
   Other labs: PT / PTT / INR:150.0/114.7/>20.2, CK / CKMB /
   Troponin-T:45//0.16, ALT / AST:1857/3964, Alk Phos / T Bili:578/16.6,
   Amylase / Lipase:/229, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:14.0 %, Eos:1.0 %, Fibrinogen:68 mg/dL, Lactic Acid:7.2 mmol/L,
   Albumin:2.5 g/dL, LDH:2670 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo M with HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now reintubated s/p acute
   decompensation on [**12-20**]
   # Hypotension: Currently maxed on levophed with vassopressin. Would add
   Neo next.  Etiology is unclear. Acute onset during HD session a few
   days ago would suggest a more vascular/mechanical process.  Most liekly
   related to his worsening decompensated cirrhosis. Being treated
   empirically for sepsis
   - would add neo next, do not anticipate being able to wean pressors
   - cont hydrocort
   - hold IVF for now as CVP high
   # ?Sepsis: Unclear source at this time; all cultures have been negative
   except initial urine for which he is completing a course.   Most likely
   cause at this time is hepatic cirrhosis and liver failure.  Per
   hepatology, no clear cause of liver failure at this time, biopsy w/
   cirrhosis.
   -- cont Vanco/Zosyn/Cipro/flagyl (D8/8); given continued
   decompensation, no plan to stop ABX
   --Glucan, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out repeatedly
   --CMV Viral load negative
   --Abd CT with some mild pancreatic inflammation
   --f/u ID consult: in general, they think that they have little to offer
   at this point
   # Transminitis/ elevated bili/ synthetic dysfunction: LFTs climbing;
   acutely decompensated.  Unclear cause at this time.  RUQ U/S done
   showed no signs of obstruction & patent Portal/hepatic Veins twice
   -- cont lactulose, rifamixin
   -- f/u hepatology recs: consider discussing role for empiric tx w/
   pentoxyphylline for alc hep
   # Coagulopathy: possibly some element of DIC superimposed on synthtic
   dysfunction given acute rise in INR to20
   -- continue vitamin K
   -- q4-6 h DIC labs and Hcts
   # PNA?, VENT, hypoxic resp failure:  self extubated & doing well until
   acute decompensation [**12-21**]. CXR shows perihilar pulmonary vasuclar
   congestion which is improved w/ peep likely [**3-6**] to increased lung
   volumes and positive pressure effect on edema. Patient has now
   completed course for HAPx1 & is d8/8 for VAP, but contuing abx as
   above.
   - Continue mechnical ventilation, serial ABG w/ vent adjustments
   -- cont Vanco/Zosyn/Cipro/flagyl
   -- no plan for vent setting changes given tenous status and possible
   change in goals of care
   # Acute renal failure: likely hepatorenal, oliguric, on CVVH but
   requiring positive fluid balance to maintian BP
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   # Atrial Fibrillation:  +afib with RVR overnight, restarted on Dilt
   gtt.  Afib likely [**3-6**] sepsis/hypotenstion.  Levophed may also
   contributing.  Efforts to transition to neo over levophed have
   -- holding metoprolol while on pressors
   -- wean Dilt gtt
   -- wean levophed, start vasopressin vs Neo if needed
   -- hold anticoagulation for now given coagulopathy
   # HIT: Ab positive. Serotonin release NEGATIVE.
   # Enterococcal UTI:
   -Completed 14 day course of Vanc.
   # Altered mental status/ Hepatic Encephalopathy:  currently with AMS
   --continue lactulose, rifamixin, HD
   # ETOH hx:
   --thiamine, folate supplementation
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Access: right PICC line
   # Code: DNR (confirmed with father, HCP yesterday)
   # [**Name2 (NI) **]: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-12-24**] 07:51 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Arterial Line - [**2124-12-24**] 05:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: icu

2124-12-25 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-23**] 06:30 PM
   Ciprofloxacin - [**2124-12-24**] 10:00 PM
   Metronidazole - [**2124-12-25**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-25**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Diltiazem - 10 mg/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2124-12-24**] 06:00 PM
   Metoprolol - [**2124-12-24**] 06:25 PM
   Diltiazem - [**2124-12-24**] 10:20 PM
   Pantoprazole (Protonix) - [**2124-12-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-25**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 35.6
C (96
   HR: 98 (76 - 126) bpm
   BP: 115/50(66) {92/30(-2) - 121/53(69)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 146.7 kg (admission): 175.1 kg
   Height: 70 Inch
   CVP: 13 (3 - 17)mmHg
   Total In:
                                                                  8,797 mL
                                                                  1,991 mL
   PO:
   TF:
                                                                    727 mL
                                                                    354 mL
   IVF:
                                                                  7,485 mL
                                                                  1,517 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,550 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,247 mL
                                                                  1,991 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.35/32/119/17/-6
   Ve: 12.5 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   54 K/uL
   88 mg/dL
   1.2 mg/dL
   17 mEq/L
   3.9 mEq/L
   13 mg/dL
   100 mEq/L
   133 mEq/L
   27.9 %
   15.6 K/uL
        [image002.jpg]
                            [**2124-12-23**]  06:42 PM
                            [**2124-12-23**]  11:16 PM
                            [**2124-12-24**]  05:11 AM
                            [**2124-12-24**]  09:46 AM
                            [**2124-12-24**]  03:44 PM
                            [**2124-12-24**]  09:50 PM
                            [**2124-12-24**]  09:58 PM
                            [**2124-12-25**]  03:52 AM
                            [**2124-12-25**]  04:01 AM
                            [**2124-12-25**]  10:11 AM
   WBC
   19.3
   15.6
   16.2
   15.6
   Hct
   29.0
   27.3
   26.9
   27.9
   Plt
   47
   48
   50
   54
   Cr
   2.2
   1.8
   2.4
   2.2
   1.8
   1.2
   TCO2
   16
   20
   19
   18
   Glucose
   65
   32
   45
   86
   55
   88
   Other labs: PT / PTT / INR:150.0/114.7/>20.2, CK / CKMB /
   Troponin-T:45//0.16, ALT / AST:1857/3964, Alk Phos / T Bili:578/16.6,
   Amylase / Lipase:/229, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:14.0 %, Eos:1.0 %, Fibrinogen:68 mg/dL, Lactic Acid:7.7 mmol/L,
   Albumin:2.5 g/dL, LDH:2670 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.6 mg/dL
   Imaging: CXR - persistent opacities LLL. Similar to prior.
   Microbiology: No new culture data.  All negative to date.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome. Self extubated and doing well [**12-18**], then with acute
   decompensation [**12-20**] with hypoxia and hypotension requiring emergent
   reintubation and pressors. Further worsening of pressor requirement and
   marked transaminitis since [**12-23**].
   Presumed septic shock: Likely from sepis [**3-6**] abdominal source given
   increased abd pain yesterday, increased LFTs/bili, lactate. Also must
   consider pulmonary source. Pan CT unrevealing.  Other contributing
   factors include relative adrenal insuff and metabolic acidemia
   - goal MAP 55-60, wean Levophed as tolerated. Would hold off on further
   fluid resuscitation
   - CVVH to resume today for correction of acid-base disturbance
   - Continue Zosyn/Cipro to cover enterococcus UTI, VAP, and SBP; cont
   metronidazole and vancomycin added back yesterday
   - F/U pan cultures, bronch studies; f/u fungal cx and consider
   micafungin
   - touch base w/ ID service
   - cont stress-dose steroids
   Decompensated liver disease: : Initial decompensation likely [**3-6**] ETOH
   abuse.  Worsening transaminitis with elevated bili of unclear etiology.
   Abd US negative for obstruction, portal vein clot.  CT unrevealing. Not
   enough fluid to do paracentesis.   S/p liver biopsy.  Markedly
   increased transaminases in the last 24h
   -need to touch base w/ hepatology svce re: mgmt. At this point support
   hemodynamics and cont workup
   -clarfiy HIV status; Hep serologies negative but will add on hep E,
   HSV, EBV and [**Last Name (un) 4195**]
   -Continue lactulose and rifaxamin
   -add standing vit K
   -Thiamine/Folate
   Afib w/ RVR: likely driven by norepi gtt and septic shock picture
   -titrate off diltiazem gtt and reduce norepi gtt or switch if still
   with afib/rvr despite
   Hypoxemic respiratory failure: Likely due to atelectasis and volume
   overload superimposed on aspiration / HAP.  S/p bronch [**12-21**] for
   secretion clearance.
   -On Zosyn/Cipro for VAP
 Day [**8-9**]; broadened as above yestrerd
   -Bronchodilators
   -further vent weaning currently limited by septic shock and poor mental
   status
   Obtundation: off propofol and still poorly responsive
   -continue to hold sedation and monitor, expected delayed recovery
   -cont lactulose and rifaximin
   -cont thiamine and folate
   AKD with possible hepatorenal syndrome or ATI: On HD.   S/p renal line
   resited.
   - On CVVHD per Renal
   Thrombocytopenia/HIT+:  Serotonin assay negative
   - Per Heme ok to use heparin for anticoag
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Arterial Line - [**2124-12-24**] 05:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-12-26 05:51:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   Family coming tomorrow AM
   On levophed, vasopressin, neo
   Fibrinogen 38, INR>20
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-23**] 06:30 PM
   Ciprofloxacin - [**2124-12-25**] 10:00 PM
   Metronidazole - [**2124-12-26**] 02:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-26**] 04:05 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Phenylephrine - 3 mcg/Kg/min
   Diltiazem - 5 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Norepinephrine - 0.28 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-26**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 84 (80 - 114) bpm
   BP: 102/38(55) {89/38(53) - 129/54(72)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 149.2 kg (admission): 175.1 kg
   Height: 70 Inch
    CVP: 8 (8 - 15)mmHg
   Total In:
                                                                  6,495 mL
                                                                  1,278 mL
   PO:
   TF:
                                                                    843 mL
                                                                    205 mL
   IVF:
                                                                  5,293 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  2,886 mL
                                                                  2,701 mL
   Urine:
   NG:
   Stool:
                                                                  1,400 mL
                                                                  1,600 mL
   Drains:
   Balance:
                                                                  3,609 mL
                                                                 -1,423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/38/76.[**Numeric Identifier 126**]/20/-3
   Ve: 13 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   33 K/uL
   8.9 g/dL
   80 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.7 mEq/L
   8 mg/dL
   97 mEq/L
   130 mEq/L
   28.0 %
   16.3 K/uL
         [image002.jpg]
                            [**2124-12-25**]  04:01 AM
                            [**2124-12-25**]  09:58 AM
                            [**2124-12-25**]  10:11 AM
                            [**2124-12-25**]  10:45 AM
                            [**2124-12-25**]  04:22 PM
                            [**2124-12-25**]  04:35 PM
                            [**2124-12-25**]  10:03 PM
                            [**2124-12-25**]  10:09 PM
                            [**2124-12-26**]  04:00 AM
                            [**2124-12-26**]  04:07 AM
   WBC
   14.1
   15.1
   15.7
   16.3
   Hct
   27.6
   27.9
   26.8
   28.0
   Plt
   38
   38
   40
   33
   Cr
   1.6
   1.2
   1.2
   0.9
   TCO2
   19
   18
   22
   24
   22
   Glucose
   83
   79
   77
   80
   Other labs: PT / PTT / INR:150.0/150.0/20.2, CK / CKMB /
   Troponin-T:45//0.16, ALT / AST:1325/[**2071**], Alk Phos / T Bili:589/16.8,
   Amylase / Lipase:/229, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:14.0 %, Eos:1.0 %, Fibrinogen:38 mg/dL, Lactic Acid:7.6 mmol/L,
   Albumin:2.5 g/dL, LDH:824 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 RASH
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
   61 yo M with HTN, COPD, and Hx of ETOH abuse admitted with acutely
   decompensated alcoholic cirrhosis, hepatorenal syndrome, hyponatremia,
   and hepatic encephalopathy, multifocal PNA. Now reintubated s/p acute
   decompensation on [**12-20**]
   # Hypotension: Currently maxed on levophed with vassopressin. Would add
   Neo next.  Etiology is unclear. Acute onset during HD session a few
   days ago would suggest a more vascular/mechanical process.  Most liekly
   related to his worsening decompensated cirrhosis. Being treated
   empirically for sepsis
   - would add neo next, do not anticipate being able to wean pressors
   - cont hydrocort
   - hold IVF for now as CVP high
   # ?Sepsis: Unclear source at this time; all cultures have been negative
   except initial urine for which he is completing a course.   Most likely
   cause at this time is hepatic cirrhosis and liver failure.  Per
   hepatology, no clear cause of liver failure at this time, biopsy w/
   cirrhosis.
   -- cont Vanco/Zosyn/Cipro/flagyl (D8/8); given continued
   decompensation, no plan to stop ABX
   --Glucan, galactomannam negative, fungal cxs pending.
   --Cdiff ruled out repeatedly
   --CMV Viral load negative
   --Abd CT with some mild pancreatic inflammation
   --f/u ID consult: in general, they think that they have little to offer
   at this point
   # Transminitis/ elevated bili/ synthetic dysfunction: LFTs climbing;
   acutely decompensated.  Unclear cause at this time.  RUQ U/S done
   showed no signs of obstruction & patent Portal/hepatic Veins twice
   -- cont lactulose, rifamixin
   -- f/u hepatology recs: consider discussing role for empiric tx w/
   pentoxyphylline for alc hep
   # Coagulopathy: possibly some element of DIC superimposed on synthtic
   dysfunction given acute rise in INR to20
   -- continue vitamin K
   -- q4-6 h DIC labs and Hcts
   # PNA?, VENT, hypoxic resp failure:  self extubated & doing well until
   acute decompensation [**12-21**]. CXR shows perihilar pulmonary vasuclar
   congestion which is improved w/ peep likely [**3-6**] to increased lung
   volumes and positive pressure effect on edema. Patient has now
   completed course for HAPx1 & is d8/8 for VAP, but contuing abx as
   above.
   - Continue mechnical ventilation, serial ABG w/ vent adjustments
   -- cont Vanco/Zosyn/Cipro/flagyl
   -- no plan for vent setting changes given tenous status and possible
   change in goals of care
   # Acute renal failure: likely hepatorenal, oliguric, on CVVH but
   requiring positive fluid balance to maintian BP
   --Monitor renal fxn
   --renally dose meds, avoid nephrotoxins, no IV contrast
   # Atrial Fibrillation:  +afib with RVR overnight, restarted on Dilt
   gtt.  Afib likely [**3-6**] sepsis/hypotenstion.  Levophed may also
   contributing.  Efforts to transition to neo over levophed have
   -- holding metoprolol while on pressors
   -- wean Dilt gtt
   -- wean levophed, start vasopressin vs Neo if needed
   -- hold anticoagulation for now given coagulopathy
   # HIT: Ab positive. Serotonin release NEGATIVE.
   # Enterococcal UTI:
   -Completed 14 day course of Vanc.
   # Altered mental status/ Hepatic Encephalopathy:  currently with AMS
   --continue lactulose, rifamixin, HD
   # ETOH hx:
   --thiamine, folate supplementation
   # FEN: tube feeds
   # PPx: PPI, pneumoboots
   # Access: right PICC line
   # Code: DNR (confirmed with father, HCP yesterday)
   # [**Name2 (NI) **]: parents
   # Dispo: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-12-26**] 12:14 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Arterial Line - [**2124-12-24**] 05:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2124-12-26 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Increasing pressor requirements
   - Family arriving this am
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-23**] 06:30 PM
   Ciprofloxacin - [**2124-12-25**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-26**] 04:05 AM
   Metronidazole - [**2124-12-26**] 10:01 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Diltiazem - 5 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Phenylephrine - 3.5 mcg/Kg/min
   Epinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-26**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 77 (77 - 114) bpm
   BP: 117/47(63) {89/38(53) - 129/54(72)} mmHg
   RR: 25 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 149.2 kg (admission): 175.1 kg
   Height: 70 Inch
   CVP: 10 (8 - 15)mmHg
   Total In:
                                                                  6,495 mL
                                                                  2,947 mL
   PO:
   TF:
                                                                    843 mL
                                                                    377 mL
   IVF:
                                                                  5,293 mL
                                                                  2,509 mL
   Blood products:
   Total out:
                                                                  2,886 mL
                                                                  2,884 mL
   Urine:
   NG:
   Stool:
                                                                  1,400 mL
                                                                  1,600 mL
   Drains:
   Balance:
                                                                  3,609 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/32/91/17/-7
   Ve: 13.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   33 K/uL
   48 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.1 mEq/L
   8 mg/dL
   98 mEq/L
   131 mEq/L
   28.0 %
   16.3 K/uL
        [image002.jpg]
                            [**2124-12-25**]  10:11 AM
                            [**2124-12-25**]  10:45 AM
                            [**2124-12-25**]  04:22 PM
                            [**2124-12-25**]  04:35 PM
                            [**2124-12-25**]  10:03 PM
                            [**2124-12-25**]  10:09 PM
                            [**2124-12-26**]  04:00 AM
                            [**2124-12-26**]  04:07 AM
                            [**2124-12-26**]  09:41 AM
                            [**2124-12-26**]  09:53 AM
   WBC
   14.1
   15.1
   15.7
   16.3
   Hct
   27.6
   27.9
   26.8
   28.0
   Plt
   38
   38
   40
   33
   Cr
   1.2
   1.2
   0.9
   TCO2
   18
   22
   24
   22
   18
   Glucose
   79
   77
   80
   48
   Other labs: PT / PTT / INR:150.0/127.5/27.4, CK / CKMB /
   Troponin-T:45//0.16, ALT / AST:1325/[**2071**], Alk Phos / T Bili:589/16.8,
   Amylase / Lipase:/229, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:14.0 %, Eos:1.0 %, Fibrinogen:38 mg/dL, Lactic Acid:7.6 mmol/L,
   Albumin:2.5 g/dL, LDH:824 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro.
   Assessment and Plan
   61M (h/o hypertension, COPD, ETOH abuse) p/w SOB, volume overload, new
   diagnosis of cirrhosis with acute decompensation, likely [**3-6**] EtOH.
   Hospital course complicated by AMS likely [**3-6**] hepatic encephalopathy,
   coffee-ground emesis with possible aspiration, respiratory failure
   requiring intubation, and acute renal failure possibly [**3-6**] hepatorenal
   syndrome. Self extubated and doing well [**12-18**], then with acute
   decompensation [**12-20**] with hypoxia and hypotension requiring emergent
   reintubation and pressors. Further worsening of pressor requirement and
   multi-organ system failure since [**12-23**].  Now awaiting family arrival.
   # Presumed septic shock: Likely from sepis [**3-6**] abdominal source given
   increased abd pain yesterday, increased LFTs/bili, lactate. Also must
   consider pulmonary source. Pan CT unrevealing.  Other contributing
   factors include relative adrenal insuff and metabolic acidemia.
   Overwhelming sepsis and likely impending death.  Awaiting family
   - Goal MAP 55-60
 on levo/vaso/neo/epi and close to maximum doses
   - Continue Vanc/Zosyn/Cipro/Flagyl to cover enterococcus UTI, VAP, and
   SBP
   - Cont stress-dose steroids
   # DIC: Presumed [**3-6**] to sepsis
   # [**Last Name (un) **]: Possible hepatorenal syndrome or ATI
   - CVVHD running positive
   # Decompensated liver disease: : Initial decompensation likely [**3-6**] ETOH
   abuse.  Worsening transaminitis with elevated bili of unclear etiology.
   Abd US negative for obstruction, portal vein clot.  CT unrevealing. Not
   enough fluid to do paracentesis.   S/p liver biopsy.  Markedly
   increased transaminases in the last 48h
   - Appreciate hepatology input
   - Continue lactulose and rifaxamin
   - On standing vit K
   - Thiamine/Folate
   # Afib w/ RVR:
   - D/c dilt gtt
   # Hypoxemic respiratory failure: Likely due to atelectasis and volume
   overload superimposed on aspiration / HAP.  S/p bronch [**12-21**] for
   secretion clearance.
   - Continue abx as above
   - Bronchodilators
   - Further vent weaning currently limited by septic shock and poor
   mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-12-26**] 12:14 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-12-7**] 12:00 PM
   Dialysis Catheter - [**2124-12-21**] 11:00 AM
   Arterial Line - [**2124-12-24**] 05:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill